2110-06-04 21:41:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85M - recent GI bleed/hypotension - returns with worsening renal
   function and mental status. In ER - guaiac pos and became brady and
   hypotensive. Intubated for hypoventilation. Had large LGIB, NG lavage
   negative. Hct at 28 and given 2 U PRBCs. Given abx.
   Remained brady and hypotensive requiring levophed.
   24 Hour Events:
   History obtained from HO
   Patient unable to provide history: Sedated
   Allergies:
   Benadryl (Injection) (Diphenhydramine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   AVMs - stomach, small bowel
   CRI
   EF 20%
   a-fib
   CVA
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-6-4**] 09:41 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 34
C (93.2
   Tcurrent: 34
C (93.2
   HR: 58 (58 - 63) bpm
   BP: 82/49(59) {82/49(59) - 113/63(82)} mmHg
   RR: 14 (13 - 14) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
           Total In:
           2,813 mL
   PO:
           TF:
   IVF:
   1,019 mL
   Blood products:
   294 mL
   Total out:
                                                                      0 mL
                                                                     50 mL
   Urine:
   50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,769 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: 7.39/42/263//0
   Ve: 7 L/min
   PaO2 / FiO2: 438
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   30
        [image002.jpg]
                             [**2110-6-4**]  07:08 PM
                             [**2110-6-4**]  07:39 PM
   Hct
   30
   TCO2
   26
   Fluid analysis / Other labs: UA > 50 WBCs
   Imaging: CT head evolution of right parietal infarct
   Microbiology: sputum, urine, blood pending
   ECG: A-fib, no ischemia, low-volt, no change
   Assessment and Plan
   Hypotension - suspect UTI, GIB, cardiomyopathy, chronotropic
   insufficiency all contributing - receiving blood, on antibiotics,
   continue levophed - add dobutamine
   Respiratory failure - cont vent support, wean as tolerated
   transudative effusions - due to CHF, eventual diuresis versus repeat
   [**Female First Name (un) **]
   GIB - access adequate, receiving blood, follow Hct
   Renal failure - follow, renal dose meds
   DM - SSi
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2110-6-4**] 08:29 PM
   Multi Lumen - [**2110-6-4**] 08:31 PM
   20 Gauge - [**2110-6-4**] 08:32 PM
   22 Gauge - [**2110-6-4**] 08:33 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2110-06-05 09:05:00 Physician Attending Progress Note
Chief Complaint: resp failure, shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2110-6-4**] 08:00 PM
 ARTERIAL LINE - START [**2110-6-4**] 08:29 PM
 MULTI LUMEN - START [**2110-6-4**] 08:31 PM
 BLOOD CULTURED - At [**2110-6-4**] 09:00 PM
 URINE CULTURE - At [**2110-6-4**] 09:00 PM
 NASAL SWAB - At [**2110-6-4**] 09:00 PM
 SPUTUM CULTURE - At [**2110-6-4**] 10:43 PM
   Dobutamine added overnight better Hr but had to triple the Levophed
   Allergies:
   Benadryl (Injection) (Diphenhydramine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2110-6-5**] 12:44 AM
   Infusions:
   Norepinephrine - 0.35 mcg/Kg/min
   Dobutamine - 5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-6-5**] 08:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 78 (54 - 80) bpm
   BP: 92/51(64) {82/44(58) - 113/66(82)} mmHg
   RR: 18 (0 - 22) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 360 (28 - 360)mmHg
   Total In:
                                                                  3,006 mL
                                                                  1,537 mL
   PO:
   TF:
   IVF:
                                                                  1,131 mL
                                                                  1,357 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    125 mL
                                                                    250 mL
   Urine:
                                                                    125 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,881 mL
                                                                  1,287 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 488 (371 - 488) mL
   RR (Set): 10
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 60
   PIP: 11 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 96%
   ABG: 7.36/41/80.[**Numeric Identifier 248**]/24/-1
   Ve: 8 L/min
   PaO2 / FiO2: 267
   Physical Examination
   Gen: intubated and sedated
   HEENT: OGT ETT
   CV: RR
   Chest: very [**Month (only) 38**] BS at right base, otherwise good air movement no wheeze
   Abd: soft hypoactive BS
   Ext: 3+ edema right greater than left
   Neuro: sedated, but moving all 4s
   Labs / Radiology
   9.3 g/dL
   171 K/uL
   112 mg/dL
   4.4 mg/dL
   24 mEq/L
   5.4 mEq/L
   79 mg/dL
   104 mEq/L
   136 mEq/L
   29.5 %
   6.3 K/uL
        [image002.jpg]
                             [**2110-6-4**]  07:08 PM
                             [**2110-6-4**]  07:39 PM
                             [**2110-6-4**]  08:58 PM
                             [**2110-6-4**]  09:27 PM
                             [**2110-6-5**]  03:04 AM
                             [**2110-6-5**]  03:35 AM
                             [**2110-6-5**]  05:18 AM
   WBC
   6.3
   Hct
   30
   29.5
   29.5
   Plt
   171
   Cr
   4.4
   TropT
   0.11
   TCO2
   26
   26
   28
   24
   Glucose
   118
   112
   Other labs: PT / PTT / INR:15.4/36.8/1.4, CK / CKMB /
   Troponin-T:26//0.11, ALT / AST:13/20, Alk Phos / T Bili:266/0.8, Lactic
   Acid:1.2 mmol/L, Albumin:3.2 g/dL, LDH:157 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTHERMIA
 SHOCK, CARDIOGENIC
   85 yr old man with cardiomyopathy, ARF, recent GI bleed, now here with
   shock and resp failure
   1. Shock: - DDX likely mixed septic and cardiogenic picture with
   suspect UTI, GIB, cardiomyopathy, chronotropic insufficiency all
   contributing. has only fem line so no SCVO2 but getting blood and
   Dobutamine added, led to increased need for levophed
                        - Sepsis: empiric Rx with vanco/Zosyn, follow up
   cx
                        - GI bleed
 seen by GI not appear to be the
   primary cycle HCT, Tx less than 30 sustained
                        - Cardiogenic: known EF 15- Echo today
                        -  ? PE
 asym LE edema check LENIS
   2. Respiratory failure
 in setting of shock, able to wean to [**4-15**] this
   AM with good result. However primary issues remain large effusions,
   volume overload, and ? laryngeal edema on laryngoscope
 will need to
   be careful when move to extubation
   3. Transudative effusions - due to CHF, eventual diuresis versus repeat
   [**Female First Name (un) **]
   4. Renal failure - follow, renal dose meds
   Remainins issues as per Housestaff
   ICU Care
   Nutrition: will start TFs in next 24 hrs
   Glycemic Control:
   Lines:
   Arterial Line - [**2110-6-4**] 08:29 PM
   Multi Lumen - [**2110-6-4**] 08:31 PM
   20 Gauge - [**2110-6-4**] 08:32 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: ppi
   VAP: HOB and chlorhex
   Communication:  will set up meeting with daughter- she had indicated
   overnight that he may not want sustained aggressive measures
   Palliative care involved on last admit, will re consult
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2110-06-05 09:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -d/c sedation
   -changed to CPAP 5/5
   Allergies:
   Benadryl (Injection) (Diphenhydramine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2110-6-5**] 12:44 AM
   Infusions:
   Dobutamine - 5 mcg/Kg/min
   Other ICU medications:
                    Ipratropium Bromide MDI 2 PUFF IH QID
    Piperacillin-Tazobactam 2.25 g IV Q8H
   Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY
   Chlorhexidine Gluconate 0.12% Oral Rinse 15 ml ORAL [**Hospital1 **]
   Midazolam 4-8 mg/hr IV DRIP TITRATE TO sedation
   DOBUTamine 2.5-10 mcg/kg/min IV DRIP TITRATE TO MAP>60 and HR > 70
   Norepinephrine 0.03-0.5 mcg/kg/min IV
   Insulin SC  (per Insulin Flowsheet)
         Sliding Scale
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-6-5**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 80 (54 - 80) bpm
   BP: 96/50(64) {82/44(58) - 113/66(82)} mmHg
   RR: 17 (0 - 22) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 360 (28 - 360)mmHg
   Total In:
                                                                  3,006 mL
                                                                  1,632 mL
   PO:
   TF:
   IVF:
                                                                  1,131 mL
                                                                  1,452 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    125 mL
                                                                    310 mL
   Urine:
                                                                    125 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,881 mL
                                                                  1,322 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 488 (371 - 488) mL
   RR (Set): 10
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 60
   PIP: 11 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 99%
   ABG: 7.36/41/80.[**Numeric Identifier 248**]/24/-1
   Ve: 8 L/min
   PaO2 / FiO2: 267
   Physical Examination
   General: Intubated, comfortable on vent
   HEENT: Sclera anicteric, MMM, oropharynx clear, PERRL but small
   Neck: supple, JVP jaw line
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi -
   good lung volumes despite large effusion
   CV: irregularly irregular, bradycardic, normal S1 + S2, no murmurs,
   rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Cool most distally, no clubbing, cyanosis but asymmetric edema
   R>L, no cords.
   Labs / Radiology
   171 K/uL
   9.3 g/dL
   112 mg/dL
   4.4 mg/dL
   24 mEq/L
   5.4 mEq/L
   79 mg/dL
   104 mEq/L
   136 mEq/L
   29.5 %
   6.3 K/uL
        [image002.jpg]
                             [**2110-6-4**]  07:08 PM
                             [**2110-6-4**]  07:39 PM
                             [**2110-6-4**]  08:58 PM
                             [**2110-6-4**]  09:27 PM
                             [**2110-6-5**]  03:04 AM
                             [**2110-6-5**]  03:35 AM
                             [**2110-6-5**]  05:18 AM
   WBC
   6.3
   Hct
   30
   29.5
   29.5
   Plt
   171
   Cr
   4.4
   TropT
   0.11
   TCO2
   26
   26
   28
   24
   Glucose
   118
   112
   Other labs: PT / PTT / INR:15.4/36.8/1.4, CK / CKMB /
   Troponin-T:26//0.11, ALT / AST:13/20, Alk Phos / T Bili:266/0.8, Lactic
   Acid:1.2 mmol/L, Albumin:3.2 g/dL, LDH:157 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   This is a 85 yo M with a hx gastric/small bowel AVMs, recently admitted
   for shock attributed to a GIB, afib, CHF (EF 20%), CRI (stage 4), who
   was transferred from rehab for altered mental status and worsening
   renal function, found to be hypotensive, hypothermic, and bradycardic.
   .
   #. Respiratory Failure - patient arrived with a respiratory acidosis,
   likely secondary to altered mental status in the setting of large right
   sided pleural effusion and compressive atelectasis. Oxygenating well on
   minimal vent settings, which can likely be weaned to PS by morning.
   Patient likely just needs backup rate and peep. Consider retap pleural
   effusion on this admission.
   - wean vent settings to CPAP/PS overnight
   - attempt bolus sedation
   - chlorhex mouthwash, ppi, HOB>30 degrees, oral care
   - consider tap of pleural eff, as compressive atelectasis may be
   barrier to extubation.
   .
   #. Hypotension - differential is still broad at this time. Main
   concerns are hemorrhagic, cardiogenic and septic shock. Hemorrhagic
   shock from a GIB are highly unlikely at this time, as hct has been
   stable and although he did have a moderate amount of BRBPR, he it was
   not brisk and did not continue. GI has a low suspicion that his
   symptoms are secondary to hemorrhage from a GI source. Cardiogenic
   shock is a possibility, the patient has a poor cardiac substrate to
   begin with. That being said, CE's are not elevated over his baseline
   and are in the setting of renal failure, with no acute ischemic changes
   on EKG. It may be that we are seeing cardiac stunning in the setting of
   sepsis, exacerbated by afib with slow ventricular response. PE is also
   a possibility, and on exam there is evidence of asymmetric lower
   extremity edema. Septic shock, of course, is at the top of the
   differential, however, we don't have an obvious source at this time
   aside from a dirty UA. Other sources could be CAP, empyema, aspiration
   pna or GI source, however CT torso (albeit non-con) was unrevealing for
   GI pathology. LFT's were wnl. It's best at this time to treat for
   combination septic and cardiogenic physiologies.
   - Favor pressors over aggressive volume repletion, however will give an
   additional liter of NS and continue with blood as needed to support
   hct>30
   - Dobutamine to titrate to HR>70 and MAP>60 while titrating down
   levophed
   - Empiric coverage with vanco/zosyn (vanco dosing by level)
   - F/U LENI's
   - Maintain Hct>30
   - F/U TEE
   - hold all antihypertensives
   - will need to resite fem line today - at that point can check central
   venous sat.  However a family meeting should take place prior to
   procedure to determine aggressiveness of care.
   .
   #. Acute on Chronic Renal Failure - baseline 2.0-2.5. Likely secondary
   to poor forward flow from poor cardiac function. Possible that dobuta
   will increase renal perfusion by maximizing EF. Given the patient's
   multiple co-morbidities and age, HD is unlikely to improve his
   mortality and increase his morbidity.
   - call renal in AM, need recs for phos binder
   - F/U urine cx
   - continue calcitriol
   .
   #. Altered Mental Status - could be any combination of the above
   factors. Currently intubated and sedated. Suffered a recent parietal
   stroke.
   .
   #. DM2 - RISS and QID fingersticks.
   .
   #. Cards
       Rhythm: afib not on coumadin given GIB history, monitor on
   telemetry. Holding rate control agents. Also slow ventricular response,
   which is likely compromising forward flow given global hypokinesis and
   EF 20%, was started on dobutamine.
       Pump: Has large pleural effusion which has been tapped in past,
   transudative. Also has evidence of upper extremity and asymmetric lower
   extremity edema, and elevated JVP, which suggests total body volume
   overload, vs. third spacing. Requiring pressor support now, but this
   may be a function of poor forward flow. Holding diuretics, levophed and
   dobuta to increase ionotropy and EF.
       Coronaries: No evidence of active ischemia at this time. Hct stable
   at 29.6. CE's cycling, however elevated in setting of renal failure,
   they are within his baseline.
   .
   #. Hyperkalemia - in the setting of renal failure. borderline at this
   time and trending down.  Pt was given a dose of kayexalate now awaiting
   BM.
   .
   # FEN: caution with IVF, replete electrolytes prn, NPO
   .
   # Prophylaxis: boots
   .
   # Access: peripherals
   .
   # Code: presumed full for now
 Will need family meeting to clarify
   goals as Pts daughter seemed confused as to what constitutes artificial
   means..
   # Communication: Patient's daughter, [**Name (NI) 3880**].
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2110-6-4**] 08:29 PM
   Multi Lumen - [**2110-6-4**] 08:31 PM
   20 Gauge - [**2110-6-4**] 08:32 PM
   Prophylaxis:
   DVT: SCD
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2110-06-06 10:04:00 Physician Attending Progress Note
Chief Complaint: resp failure, cardiogenic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2110-6-5**] 08:28 AM LEV EF 35%
 ULTRASOUND - At [**2110-6-5**] 09:22 AM
   LENIS negative
   dobutamine weaned off
   Allergies:
   Benadryl (Injection) (Diphenhydramine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2110-6-6**] 04:27 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.22 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2110-6-6**] 08:15 AM
   Fentanyl - [**2110-6-6**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-6-6**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.9
   HR: 69 (69 - 88) bpm
   BP: 98/52(66) {88/46(60) - 110/57(73)} mmHg
   RR: 10 (10 - 27) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 351 (342 - 358)mmHg
   Total In:
                                                                  3,341 mL
                                                                    863 mL
   PO:
   TF:
   IVF:
                                                                  3,161 mL
                                                                    773 mL
   Blood products:
   Total out:
                                                                    533 mL
                                                                    235 mL
   Urine:
                                                                    533 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,808 mL
                                                                    628 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 575 (380 - 575) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 0 cmH2O
   FiO2: 30%
   RSBI: 44
   PIP: 6 cmH2O
   SpO2: 98%
   ABG: 7.34/42/98.[**Numeric Identifier 248**]/25/-2
   Ve: 6.8 L/min
   PaO2 / FiO2: 327
   Physical Examination
    Gen: intubated and sedated
   HEENT: OGT ETT
   CV: RR
   Chest: very decreased at both bases but r> l  and no wheeze
   Abd: soft hypoactive BS
   Ext: 3+ edema right greater than left
   Neuro: sedated, but moving all 4s
   Labs / Radiology
   8.8 g/dL
   167 K/uL
   136 mg/dL
   4.5 mg/dL
   25 mEq/L
   4.9 mEq/L
   75 mg/dL
   103 mEq/L
   136 mEq/L
   27.4 %
   9.8 K/uL
        [image002.jpg]
                             [**2110-6-5**]  03:04 AM
                             [**2110-6-5**]  03:35 AM
                             [**2110-6-5**]  05:18 AM
                             [**2110-6-5**]  09:10 AM
                             [**2110-6-5**]  12:20 PM
                             [**2110-6-5**]  06:30 PM
                             [**2110-6-5**]  09:49 PM
                             [**2110-6-6**]  01:04 AM
                             [**2110-6-6**]  05:28 AM
                             [**2110-6-6**]  09:21 AM
   WBC
   6.3
   9.5
   9.8
   Hct
   29.5
   30.8
   30.3
   28.8
   27.4
   Plt
   171
   187
   167
   Cr
   4.4
   4.6
   4.6
   4.6
   4.5
   TropT
   0.11
   TCO2
   28
   24
   27
   26
   24
   Glucose
   112
   127
   128
   131
   136
   Other labs: PT / PTT / INR:15.2/36.8/1.3, CK / CKMB /
   Troponin-T:26//0.11, ALT / AST:13/20, Alk Phos / T Bili:266/0.8, Lactic
   Acid:1.0 mmol/L, Albumin:3.2 g/dL, LDH:157 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTHERMIA
 SHOCK, CARDIOGENIC
   85 yr old man with cardiomyopathy, ARF, recent GI bleed, now here with
   shock and resp failure
   1. Shock: - DDX likely mixed septic and cardiogenic picture with
   suspect UTI, GIB, cardiomyopathy, chronotropic insufficiency all
   contributing. has only fem line so no SCVO2 but getting blood and
   Dobutamine added, led to increased need for levophed. Now off dobuta
   and weaning levophed
                        - Sepsis: empiric Rx with vanco/Zosyn, follow up
   cx
                        - GI bleed
 seen by GI not appear to be the
   primary cycle HCT, Tx less than 30 sustained
                        - Cardiogenic: known EF 15- Echo yesterday better.
   Get RIJ and chrck CVP and SCVO2
                        -
   2. Respiratory failure
 in setting of shock, able to wean to [**4-15**] this
   AM with good result. However primary issues remain large effusions,
   volume overload, and ? laryngeal edema on laryngoscope
 will need to
   be careful when move to extubation
   3. Transudative effusions - due to CHF, eventual diuresis versus repeat
   [**Female First Name (un) **]
   4. Renal failure - follow, renal dose meds
   Remains issues as per Housestaff
   ICU Care
   Nutrition: NPO for possible extubation
   Glycemic Control:
   Lines:
   Arterial Line - [**2110-6-4**] 08:29 PM
   Multi Lumen - [**2110-6-4**] 08:31 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:    met w daughter yesterday [**Name (NI) 9419**] Care to see today
   Code status: Full code
   Disposition : ICU
   Total time spent: 40

2110-06-07 06:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - fem line resited to IJ line
   - levophed being weaned (currently 0.03)
   - plan for extubation once pt more awake, currently on hold
   - check vanc level in AM
   - renal recs: ?amyloid, UPEP, protein:Cr ratio (entered in computer)
   - no new palliative care recs
   Allergies:
   Benadryl (Injection) (Diphenhydramine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2110-6-7**] 04:35 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2110-6-6**] 08:15 AM
   Fentanyl - [**2110-6-6**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-6-7**] 06:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36
C (96.8
   HR: 78 (63 - 84) bpm
   BP: 112/57(74) {90/46(59) - 119/66(82)} mmHg
   RR: 20 (8 - 24) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
    CVP: 26 (13 - 28)mmHg
   Mixed Venous O2% Sat: 58 - 58
   Total In:
                                                                  1,633 mL
                                                                    201 mL
   PO:
   TF:
   IVF:
                                                                  1,543 mL
                                                                    201 mL
   Blood products:
   Total out:
                                                                    332 mL
                                                                     75 mL
   Urine:
                                                                    332 mL
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,301 mL
                                                                    126 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 435 (435 - 635) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 73
   PIP: 12 cmH2O
   SpO2: 97%
   ABG: 7.33/44/95.[**Numeric Identifier 607**]//-2
   Ve: 9.1 L/min
   PaO2 / FiO2: 317
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   167 K/uL
   8.8 g/dL
   136 mg/dL
   4.5 mg/dL
   25 mEq/L
   4.9 mEq/L
   75 mg/dL
   103 mEq/L
   136 mEq/L
   27.4 %
   9.8 K/uL
        [image002.jpg]
                             [**2110-6-5**]  03:35 AM
                             [**2110-6-5**]  05:18 AM
                             [**2110-6-5**]  09:10 AM
                             [**2110-6-5**]  12:20 PM
                             [**2110-6-5**]  06:30 PM
                             [**2110-6-5**]  09:49 PM
                             [**2110-6-6**]  01:04 AM
                             [**2110-6-6**]  05:28 AM
                             [**2110-6-6**]  09:21 AM
                             [**2110-6-6**]  10:46 AM
   WBC
   9.5
   9.8
   Hct
   30.8
   30.3
   28.8
   27.4
   Plt
   187
   167
   Cr
   4.6
   4.6
   4.6
   4.5
   TCO2
   28
   24
   27
   26
   24
   24
   Glucose
   127
   128
   131
   136
   Other labs: PT / PTT / INR:15.2/36.8/1.3, CK / CKMB /
   Troponin-T:26//0.11, ALT / AST:13/20, Alk Phos / T Bili:266/0.8, Lactic
   Acid:1.0 mmol/L, Albumin:3.2 g/dL, LDH:157 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   This is a 85 yo M with a hx gastric/small bowel AVMs, recently admitted
   for shock attributed to a GIB, afib, CHF (EF 20%), CRI (stage 4), who
   was transferred from rehab for altered mental status and worsening
   renal function, found to be hypotensive, hypothermic, and bradycardic.
   .
   #. Dyspnea
   - patient is currently on CPAP/PSV with PEEP of 0 and PS of 5
   - continue sedation if pt is pulling at or biting tube
   - consider further attempts to wean the patient off of the ventilator
   should change pt
s femoral line to a central line before attempting to
   extubated patient, however
   .
   #. Hypotension
   - still no clear etiology
   - likely that this is not hemorrhagic shock
 GI has a low suspicion
   and the patient
s Hct
s are overall stable
   - pt did have a slight drop in Hct since yesterday, though, so will
   need to keep monitoring.
   - PE is also less likely because lower extremity ultrasounds were WNL.
   - blood and urine cx still pending - will treat empirically with
   vanc/zosyn as per yesterday
 need to renally dose vanc based off of
   vanc level
   - pt also has severe diastolic dysfunction so need to be careful with
   fluids
   - pt is off of dobutamine, getting norepi
   - will continue to hold all antihypertensives
   - need to resite the patient
s femoral line
 should be changed to a
   central line prior to extubating the patient
   .
   #. Acute on Chronic Renal Failure
   - likely secondary to poor renal perfusion
   - follow-up renal consult
   .
   #. DM2
   - continue with insulin sliding scale and accuchecks.
   .
   #. Altered Mental Status
 difficult to assess [**1-13**] to patient being
   sedated
   # FEN: caution with IVF, replete electrolytes prn, NPO
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2110-6-4**] 08:29 PM
   Multi Lumen - [**2110-6-4**] 08:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2110-06-08 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Called to bedside by RN who noted skin break down at base of penis.
   Very edematious with skin breakdown along shaft of penis.  Requested
   wound care consult.
   -Spoke with Pts daughter at 1850hrs. Updated her on his current
   condition.  She wants to continue to give him an opportunity to respond
   to the current therapy.
   Allergies:
   Benadryl (Injection) (Diphenhydramine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2110-6-8**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2110-6-7**] 11:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-6-8**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.7
C (96.3
   HR: 62 (55 - 77) bpm
   BP: 100/49(63) {89/43(58) - 123/65(87)} mmHg
   RR: 10 (9 - 30) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
    CVP: 30 (23 - 30)mmHg
   Total In:
                                                                  1,010 mL
                                                                    437 mL
   PO:
   TF:
                                                                    127 mL
                                                                    167 mL
   IVF:
                                                                    852 mL
                                                                    271 mL
   Blood products:
   Total out:
                                                                    392 mL
                                                                    102 mL
   Urine:
                                                                    392 mL
                                                                    102 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    618 mL
                                                                    335 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 836 (435 - 836) mL
   PS : 8 cmH2O
   RR (Set): 0
   RR (Spontaneous): 8
   PEEP: 8 cmH2O
   FiO2: 30%
   RSBI: 28
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: 7.34/43/99.[**Numeric Identifier 128**]/24/-2
   Ve: 5 L/min
   PaO2 / FiO2: 330
   Physical Examination
   General
 sedated, on ventilator
   CV
 faint heart sounds, ?murmur heard at LLSB
   Resp
 harsh breath sounds anteriorly
   Adbomen
 somewhat tense, BS present, no guarding
   Ext
 swelling noted in hands and feet, pitting edema on feet
   GU
 scrotum extremely swollen
   Labs / Radiology
   160 K/uL
   8.3 g/dL
   156 mg/dL
   5.0 mg/dL
   24 mEq/L
   4.7 mEq/L
   85 mg/dL
   102 mEq/L
   136 mEq/L
   26.1 %
   7.5 K/uL
        [image002.jpg]
                             [**2110-6-6**]  05:28 AM
                             [**2110-6-6**]  09:21 AM
                             [**2110-6-6**]  10:46 AM
                             [**2110-6-7**]  06:00 AM
                             [**2110-6-7**]  07:55 AM
                             [**2110-6-7**]  11:47 AM
                             [**2110-6-7**]  03:11 PM
                             [**2110-6-7**]  04:50 PM
                             [**2110-6-8**]  03:10 AM
                             [**2110-6-8**]  03:26 AM
   WBC
   9.8
   8.7
   7.5
   Hct
   27.4
   27.0
   26.1
   Plt
   167
   144
   160
   Cr
   4.5
   4.8
   4.8
   5.0
   TCO2
   24
   24
   24
   25
   24
   24
   Glucose
   136
   111
   119
   156
   Other labs: PT / PTT / INR:15.2/36.8/1.3, CK / CKMB /
   Troponin-T:26//0.11, ALT / AST:[**11-1**], Alk Phos / T Bili:258/1.0, Lactic
   Acid:1.4 mmol/L, Albumin:3.2 g/dL, LDH:157 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.5 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   85 yo M with h/o CHF (EF 20%), acute of chronic (stage IV) renal
   failure, recent GIB (h/o AVMs), in MICU with shock and respiratory
   failure.
   # Shock: - cardiogenic vs. combination of septic and cardiogenic.  Pt
   is off of dobutamine and is currently on norepi at 0.11.
   - likely that this is not hypovolemic shock [**1-13**] to GI bleeding.
   Despite pts h/o GIB, his Hct is relatively stable and GI does not
   suspect GIB.  Also, CVP is 23-30.  Will continue to closely monitor
   Hct, however, as pt
s Hct has trended down slightly.
   - no clear septic etiologies at this point.  Pt is on empiric
   vanco/zosyn, with vanc being doesd by level.
   - will follow up blood cx.  Urine cultures growing yeast.
   - for CHF, continue to follow pt
s fluid status and follow CXR
   - will restart pt on dobutamine for increased contractility
   # Respiratory failure
 intubated, on cpap [**7-19**].  Plan was to wean from
   went, but pt with copious white, frothy oral secretions c/w pulm edema,
   as seen with cxr as well.  So, plan changed to diurese approximately 1
   L negative with lasix gtt.
   - lasix gtt stopped [**1-13**] low BP
   - f/u CXR this morning to look at status of pulmonary edema
   - other obstacles to extubation are transudative pleural effusions and
   laryngeal edema.  Will need to be careful when extubating
   - will need to consider CVVH for fluid status if it continues to be a
   problem
   # Transudative effusions
 persistent
   - eventual diuresis versus repeat thoracentesis vs cvvh.
   # Renal failure
   - continue to follow BUN/Cr
   - renal dosing of meds
   - dose vanc by level
   # DM2
   - continue with insulin sliding scale and accuchecks.
   # Altered Mental Status
 difficult to assess [**1-13**] to patient being
   sedated
   # FEN: caution with IVF, replete electrolytes prn, NPO
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2110-6-8**] 02:44 AM 25 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2110-6-4**] 08:29 PM
   Multi Lumen - [**2110-6-4**] 08:31 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate); ok to intubate
   Disposition:ICU

2110-06-09 11:12:00 Physician Attending Progress Note
Chief Complaint: resp failure, ARF, GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   melena - 2 UPRBC
   restarted Dobuta
   Apneic when on PSV today
   Allergies:
   Benadryl (Injection) (Diphenhydramine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2110-6-9**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Dobutamine - 5 mcg/Kg/min
   Norepinephrine - 0.13 mcg/Kg/min
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2110-6-8**] 05:50 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-6-9**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.7
C (96.2
   HR: 72 (61 - 83) bpm
   BP: 107/55(71) {87/40(58) - 112/60(76)} mmHg
   RR: 15 (8 - 22) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
           Total In:
                                                                  1,893 mL
                                                                  1,463 mL
   PO:
           TF:
                                                                    792 mL
                                                                    274 mL
   IVF:
                                                                  1,071 mL
                                                                    777 mL
   Blood products:
   412 mL
   Total out:
                                                                    342 mL
                                                                    180 mL
   Urine:
                                                                    342 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,551 mL
                                                                  1,283 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 586 (571 - 600) mL
   PS : 0 cmH2O
   RR (Set): 10
   RR (Spontaneous): 2
   PEEP: 8 cmH2O
   FiO2: 30%
   RSBI: 56
   PIP: 31 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: 7.29/51/112/24/-2
   Ve: 6.3 L/min
   PaO2 / FiO2: 373
   Physical Examination
   Gen: intubated and sedated but intermittently moving all ext and trying
   to sit up
   CV: RR
   Chest: coarse BS bilat no wheeze
   Abd: soft hypoactive BS
   Ext: _ edema
   Labs / Radiology
   7.5 g/dL
   116 K/uL
   174 mg/dL
   5.0 mg/dL
   24 mEq/L
   4.5 mEq/L
   86 mg/dL
   102 mEq/L
   137 mEq/L
   22.9 %
   8.4 K/uL
        [image002.jpg]
                             [**2110-6-7**]  06:00 AM
                             [**2110-6-7**]  07:55 AM
                             [**2110-6-7**]  11:47 AM
                             [**2110-6-7**]  03:11 PM
                             [**2110-6-7**]  04:50 PM
                             [**2110-6-8**]  03:10 AM
                             [**2110-6-8**]  03:26 AM
                             [**2110-6-8**]  02:46 PM
                             [**2110-6-9**]  03:16 AM
                             [**2110-6-9**]  09:53 AM
   WBC
   8.7
   7.5
   8.4
   Hct
   27.0
   26.1
   22.9
   Plt
   144
   160
   116
   Cr
   4.8
   4.8
   5.0
   5.0
   5.0
   TCO2
   24
   25
   24
   24
   24
   26
   Glucose
   111
   119
   156
   161
   174
   Other labs: PT / PTT / INR:15.2/36.8/1.3, CK / CKMB /
   Troponin-T:26//0.11, ALT / AST:[**11-1**], Alk Phos / T Bili:258/1.0, Lactic
   Acid:1.4 mmol/L, Albumin:3.2 g/dL, LDH:157 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTHERMIA
 SHOCK, CARDIOGENIC
   85 yr old man with cardiomyopathy, ARF, recent GI bleed, now here with
   shock and resp failure
   1. Shock: - DDX likely cardiogenic picture with suspect UTI, GIB,
   cardiomyopathy, chronotropic insufficiency all contributing. Has not
   been able to come off Levophed and is now back on Dobuta for inotropic
   support.
                        - Sepsis: empiric Rx with vanco/Zosyn, follow up
   cx
                        - GI bleed
 seen by GI not appear to be the
   primary cycle HCT, Tx less than 30 sustained
 discuss again role of
   scope but likely too sick at this point and will recc supp with
   products
                        - Cardiogenic: known EF 35- on dibuta and levo-
   will try to wean levopeh to off.
   2. Respiratory failure
 in setting of shock, back on AC. However
   primary issues remain large effusions, volume overload, and ? laryngeal
   edema on laryngoscope
 will need to be careful when move to
   extubation. Try to get back to PSV later today.
   3. GI bleed: recurrent: getting 2 U PRBC now, not stable for EGD at
   this point.
   3. Transudative effusions - due to CHF, eventual diuresis versus repeat
   [**Female First Name (un) **]
   4. Renal failure - follow, renal dose meds, will need to decide HD/CVVH
   in near future but his overall course would lead me to believe this is
   not indicated given his morbid prognosis -
   ICU Care
   Nutrition: TFs
   Glycemic Control:
   Lines:
   Arterial Line - [**2110-6-4**] 08:29 PM
   Multi Lumen - [**2110-6-4**] 08:31 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP:  Hob chlorhex,
   Communication:  Palliative care is working with us, we are trying to
   get his daughter /HCP back in to discuss these issues but she is very
   overwhelmend. If she cannot function as HCP we will need to search for
   alternative.
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40

2110-06-11 10:07:00 Physician Attending Progress Note
Chief Complaint: shock resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Benadryl (Injection) (Diphenhydramine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2110-6-11**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2110-6-10**] 06:10 PM
   Fentanyl - [**2110-6-10**] 06:21 PM
   Pantoprazole (Protonix) - [**2110-6-11**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-6-11**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.5
C (95.9
   HR: 79 (69 - 79) bpm
   BP: 126/69(90) {91/45(61) - 126/69(90)} mmHg
   RR: 20 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
   CVP: 29 (18 - 325)mmHg
   Mixed Venous O2% Sat: 57 - 59
   Total In:
                                                                  1,283 mL
                                                                    508 mL
   PO:
   TF:
                                                                    207 mL
   IVF:
                                                                  1,223 mL
                                                                    301 mL
   Blood products:
   Total out:
                                                                    605 mL
                                                                    160 mL
   Urine:
                                                                    605 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    678 mL
                                                                    348 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 1
   PEEP: 8 cmH2O
   FiO2: 30%
   RSBI Deferred: Hemodynamic Instability, No Spon Resp
   PIP: 31 cmH2O
   Plateau: 29 cmH2O
   SpO2: 100%
   ABG: 7.41/38/87.[**Numeric Identifier 244**]/23/0
   Ve: 9.2 L/min
   PaO2 / FiO2: 293
   Physical Examination
    Gen: intubated and sedated but when wakes agitated
   CV: RR
   Chest: coarse BS bilat no wheeze
   Abd: soft hypoactive BS
   Ext: ++edema
   Labs / Radiology
   8.9 g/dL
   110 K/uL
   146 mg/dL
   4.9 mg/dL
   23 mEq/L
   4.6 mEq/L
   88 mg/dL
   101 mEq/L
   135 mEq/L
   26.9 %
   9.1 K/uL
        [image002.jpg]
                             [**2110-6-9**]  11:54 AM
                             [**2110-6-9**]  02:56 PM
                             [**2110-6-9**]  03:05 PM
                             [**2110-6-9**]  07:15 PM
                             [**2110-6-9**]  10:12 PM
                             [**2110-6-10**]  03:54 AM
                             [**2110-6-10**]  04:16 AM
                             [**2110-6-10**]  02:57 PM
                             [**2110-6-11**]  02:00 AM
                             [**2110-6-11**]  02:55 AM
   WBC
   7.3
   9.1
   Hct
   27.6
   25.4
   25.5
   26.0
   26.9
   Plt
   100
   110
   Cr
   5.5
   5.1
   4.9
   TCO2
   26
   24
   25
   27
   25
   Glucose
   171
   145
   146
   Other labs: PT / PTT / INR:15.2/35.7/1.3, CK / CKMB /
   Troponin-T:26//0.11, ALT / AST:[**11-1**], Alk Phos / T Bili:258/1.0, Lactic
   Acid:1.4 mmol/L, Albumin:3.2 g/dL, LDH:157 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 CONSTIPATION (OBSTIPATION, FOS)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTHERMIA
 SHOCK, CARDIOGENIC
   85 yr old man with cardiomyopathy, ARF, recent GI bleed, now here with
   shock and resp failure
   1. Shock: - Mainly a cardiogenic picture with suspect UTI, GIB,
   cardiomyopathy, chronotropic insufficiency all contributing. Has not
   been able to come off Levophed and is also on Dobuta for inotropic
   support.
                        - Sepsis: empiric Rx with vanco/Zosynbut neg
   cultures and will stop ABX
                        - Cardiogenic: known EF 20-30% and is massively
   volume overloaded. try to wean dobutamine and trend SCVo2. If we cannot
   get off dobutamine will need to discuss goals of care versus CVVH trial
   2. Respiratory failure
 in setting of shock, back on AC. However
   primary issues remain large effusions, volume overload, and ? laryngeal
   edema on laryngoscope
 will need to be careful when move to
   extubation. Try to get back to PSV later today but with volume
   overload. And sedation this will be a challenge.
   3. GI bleed: stable after Tx -
   85 yr old man with cardiomyopathy, ARF, recent GI bleed, now here with
   shock and resp failure
   1. Shock: - Mainly a cardiogenic picture with suspect UTI, GIB,
   cardiomyopathy, chronotropic insufficiency all contributing. Has not
   been able to come off Levophed and is also on Dobuta for inotropic
   support.
                        - Sepsis: empiric Rx with vanco/Zosyn, follow up
   cx neg to date complete 7 day course
                        - Cardiogenic: known EF 20-30% try to wean
   dobutamine and trend SCVo2. If we cannot get off dobutamine will need
   to discuss goals of care versus CVVH trial
   2. Respiratory failure
 in setting of shock, back on AC. However
   primary issues remain large effusions, volume overload, and ? laryngeal
   edema on laryngoscope
 will need to be careful when move to
   extubation. Try to get back to PSV later today but with volume
   overload. And sedation this will be a challenge.
   3. Renal Failure- progressive volume pverload, unable to keep up.
   Deiscussed CVVH and family wants a trial
   4. GI bleed: stable after Tx
   Remaining issues as per Housestaff
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2110-6-11**] 12:02 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2110-6-4**] 08:29 PM
   Multi Lumen - [**2110-6-4**] 08:31 PM
   Prophylaxis:
   DVT: [**Hospital1 **] PPI
   Stress ulcer:
   VAP: chlorhex, HOB
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent:

2110-06-12 10:13:00 Physician Attending Progress Note
Chief Complaint: resp failure, heart failure,
   HPI:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2110-6-11**] 03:00 PM
   Initiated on CVVH
   Daughters updated
   Allergies:
   Benadryl (Injection) (Diphenhydramine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2110-6-11**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Norepinephrine - 0.14 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2110-6-11**] 03:00 PM
   Fentanyl - [**2110-6-11**] 03:44 PM
   Pantoprazole (Protonix) - [**2110-6-12**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-6-12**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 34.7
C (94.4
   HR: 72 (62 - 82) bpm
   BP: 87/44(58) {87/44(58) - 120/67(85)} mmHg
   RR: 18 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 110 kg (admission): 96.9 kg
   Height: 71 Inch
   CVP: 16 (14 - 30)mmHg
   CO/CI (Fick): (5.9 L/min) / (2.7 L/min/m2)
   Mixed Venous O2% Sat: 60 - 60
   Total In:
                                                                  1,126 mL
                                                                  1,502 mL
   PO:
   TF:
                                                                     70 mL
                                                                    116 mL
   IVF:
                                                                  1,056 mL
                                                                  1,386 mL
   Blood products:
   Total out:
                                                                  1,116 mL
                                                                  1,778 mL
   Urine:
                                                                    445 mL
                                                                    138 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     10 mL
                                                                   -276 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 30%
   PIP: 30 cmH2O
   Plateau: 22 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.38/41/91/23/0
   Ve: 8.3 L/min
   PaO2 / FiO2: 303
   Physical Examination
   Gen: intubated and sedated but when wakes agitated
   CV: RR
   Chest: coarse BS bilat no wheeze
   Abd: distended  hypoactive BS
   Ext: ++edema
   Neuro: wakes to voice, not following commands
   Labs / Radiology
   8.8 g/dL
   146 K/uL
   133 mg/dL
   3.5 mg/dL
   23 mEq/L
   3.9 mEq/L
   68 mg/dL
   99 mEq/L
   134 mEq/L
   26.6 %
   14.5 K/uL
        [image002.jpg]
                             [**2110-6-10**]  04:16 AM
                             [**2110-6-10**]  02:57 PM
                             [**2110-6-11**]  02:00 AM
                             [**2110-6-11**]  02:55 AM
                             [**2110-6-11**]  04:42 PM
                             [**2110-6-11**]  04:59 PM
                             [**2110-6-11**]  09:51 PM
                             [**2110-6-11**]  10:02 PM
                             [**2110-6-12**]  03:48 AM
                             [**2110-6-12**]  04:15 AM
   WBC
   9.1
   14.5
   Hct
   26.0
   26.9
   27.4
   26.6
   Plt
   110
   146
   Cr
   4.9
   5.1
   3.5
   TCO2
   27
   25
   26
   26
   25
   Glucose
   146
   155
   148
   133
   Other labs: PT / PTT / INR:14.5/37.3/1.3, CK / CKMB /
   Troponin-T:26//0.11, ALT / AST:[**11-1**], Alk Phos / T Bili:258/1.0, Lactic
   Acid:1.4 mmol/L, Albumin:3.2 g/dL, LDH:157 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 CONSTIPATION (OBSTIPATION, FOS)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTHERMIA
 SHOCK, CARDIOGENIC
   85 yr old man with cardiomyopathy, ARF, recent GI bleed, now here with
   shock and resp failure
   1. Heart Failure:  Mainly a cardiogenic picture with suspect UTI, GIB,
   cardiomyopathy, chronotropic insufficiency all contributing. Has not
   been able to come off Levophed but able to wean Dobutamine.  We are now
   using CVVH to try to get at least 2 liters negative today even if we up
   the levophed and trend SCVO2.
   2. Respiratory failure
 in setting of 12 L positive, heart failure,
   large effusions,? laryngeal edema on initial intubation. Try to get
   back to PSV later today but with volume overload and sedation this will
   be a challenge. Goal is to push CVVH and assess from there
   3. GI bleed: stable after Tx
 EGD and C scope in [**Month (only) 60**] without acute
   lesions. Will monitor clinically and EGD repeat if rebleeds.
   [**Month (only) 60**] well be intermittent ischemia
   4. ARF: CVVH for volume management as above
   5. Leukocytosis: send C diff, pan culture
   Remaining issues as per Housestaff
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2110-6-11**] 05:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2110-6-4**] 08:29 PM
   Multi Lumen - [**2110-6-4**] 08:31 PM
   Dialysis Catheter - [**2110-6-11**] 03:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP: chlorhex, HOB
   Communication:  with daughters see other notes  - complicated social
   situation
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2110-06-14 05:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - a line fell out; redone
   Allergies:
   Benadryl (Injection) (Diphenhydramine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Norepinephrine - 0.16 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Midazolam (Versed) - [**2110-6-14**] 05:00 AM
   Fentanyl - [**2110-6-14**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-6-14**] 05:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 79 (68 - 83) bpm
   BP: 105/46(62) {80/41(50) - 122/56(74)} mmHg
   RR: 18 (18 - 20) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 103 kg (admission): 96.9 kg
   Height: 71 Inch
    CVP: 14 (10 - 20)mmHg
   CO/CI (Fick): (7 L/min) / (3.3 L/min/m2)
   Mixed Venous O2% Sat: 64 - 64
   Total In:
                                                                  3,950 mL
                                                                  1,167 mL
   PO:
   TF:
                                                                    620 mL
                                                                    199 mL
   IVF:
                                                                  3,210 mL
                                                                    968 mL
   Blood products:
   Total out:
                                                                  7,335 mL
                                                                  2,501 mL
   Urine:
                                                                    215 mL
                                                                     45 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,385 mL
                                                                 -1,334 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 30%
   RSBI Deferred: Hemodynamic Instability
   PIP: 25 cmH2O
   Plateau: 23 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/36/96.[**Numeric Identifier 244**]/25/0
   Ve: 9.5 L/min
   PaO2 / FiO2: 323
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   173 K/uL
   8.2 g/dL
   173 mg/dL
   1.7 mg/dL
   25 mEq/L
   3.7 mEq/L
   25 mg/dL
   99 mEq/L
   134 mEq/L
   24.3 %
   14.7 K/uL
        [image002.jpg]
                             [**2110-6-13**]  03:52 AM
                             [**2110-6-13**]  04:18 AM
                             [**2110-6-13**]  09:43 AM
                             [**2110-6-13**]  09:54 AM
                             [**2110-6-13**]  03:31 PM
                             [**2110-6-13**]  03:41 PM
                             [**2110-6-13**]  10:00 PM
                             [**2110-6-13**]  10:12 PM
                             [**2110-6-14**]  04:00 AM
                             [**2110-6-14**]  04:12 AM
   WBC
   11.1
   14.7
   Hct
   25.3
   24.3
   Plt
   152
   173
   Cr
   2.3
   2.0
   1.8
   1.7
   TCO2
   28
   27
   27
   21
   25
   Glucose
   164
   169
   154
   143
   173
   Other labs: PT / PTT / INR:15.1/34.3/1.3, CK / CKMB /
   Troponin-T:26//0.11, ALT / AST:[**11-1**], Alk Phos / T Bili:258/1.0, Lactic
   Acid:1.2 mmol/L, Albumin:3.2 g/dL, LDH:157 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   85 yo M with h/o CHF (EF 20%), acute on chronic (stage IV) renal
   failure, recent GIB (h/o AVMs), in MICU with shock and respiratory
   failure.
   # Shock: - likely cardiogenic.  Pt is currently on levophed at 0.14
   - continue to follow pt
s fluid status and CXR
   - obtain another mixed venous O2 sat today to assess effectiveness of
   CVVH
   - continue CVVH fluid removal, titrating up levophed to keep MAP>50
   (try to keep around 55)
   - goal fluid removal: as much at the patient can tolerate
   - need to meet with family in the next day or two to address
   effectiveness of CVVH, long-term prognosis, and goals of care
   # Respiratory failure
 intubated, on AC with a PEEP of 8.  Pt has had
   problems with extubation previously, first [**1-13**] increased frothy
   secretions and also [**1-13**] to failed RSBI.
   - pt failed RSBI several days ago
 will ultimately need to wean
   patient to PS and attempt another RSBI; however, fluid removal via CVVH
   is more pressing at this time
   - pt started on CVVH Wednesday night
 1.8 fluid removed yesterday
   - goal is to maximize fluid removal, titrating up levophed as needed to
   maintain fluid removal
   - If pt eventually extubated, will need to take care secondary to her
   transudative pleural effusions and laryngeal edema.  Will need to be
   careful when extubating.
   # Leukocytosis
   - no septic etiologies identified previously.
   - pt had white count to 14.5 yesterday
 pan cultured
   - WBC now down to 11.1
   - prelim sputum culture showed budding yeast; blood and urine cultures
   PENDING
   - continue to monitor WBC at this point , keeping in mind that pt will
   not mount a febrile response while on CVVH
   - will also send stool cultures is patient clinically deteriorates or
   WBC re-elevates
   # Anemia
 Hct fairly steady at 25.3 (27.4 -> 26.6 -> 25.3)
   - continue to trend pt
s Hct
   - PPI [**Hospital1 **]
   # Transudative effusions
 persistent
   - Pt is on CVVH to remove some fluid
   - Continue to monitor effusions on serial CXR
   # Renal failure
 likely secondary to decreased renal perfusion
   - Cr improved today 1.3 on CVVH
   # DM2
   - continue with insulin sliding scale and accuchecks.
   - will increase ISS because pt
s CBG
s have been in the 170
   # Altered Mental Status
 difficult to assess [**1-13**] to patient being
   sedated
   # FEN: caution with IVF, replete electrolytes prn, on TF
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2110-6-13**] 01:03 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2110-6-4**] 08:31 PM
   Dialysis Catheter - [**2110-6-11**] 03:00 PM
   Arterial Line - [**2110-6-12**] 09:50 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate); ok to intubate
   Disposition:ICU

2110-06-15 05:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - pancultured on [**2110-6-14**] due to leukocytosis
   -weaned to PS [**9-18**]
   -continued aggressive diuresis via cvvh
   - on levophed to keep map > 50
   - on 2 of versed and 75 of fentanyl
   Allergies:
   Benadryl (Injection) (Diphenhydramine Hcl)
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-6-14**] 07:30 PM
   Fentanyl - [**2110-6-14**] 09:30 PM
   Midazolam (Versed) - [**2110-6-15**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-6-15**] 05:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.7
C (96.3
   HR: 85 (77 - 85) bpm
   BP: 108/51(68) {90/36(51) - 116/64(81)} mmHg
   RR: 19 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 100 kg (admission): 96.9 kg
   Height: 71 Inch
    CVP: 9 (8 - 14)mmHg
   Total In:
                                                                  6,218 mL
                                                                  2,151 mL
   PO:
   TF:
                                                                    840 mL
                                                                    195 mL
   IVF:
                                                                  5,288 mL
                                                                  1,955 mL
   Blood products:
   Total out:
                                                                 12,131 mL
                                                                  3,252 mL
   Urine:
                                                                    250 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,913 mL
                                                                 -1,101 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 487 (487 - 630) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 30%
   RSBI: 45
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.42/44/130/26/4 (4:20 this AM)
   Ve: 8 L/min
   PaO2 / FiO2: 433
   Physical Examination
   General
 sedated, on ventilator, rouses to voice
   CV
 RRR; no murmurs, rubs, or gallops
   Resp
 clear to auscultation anteriorly, decreased breath sounds in the
   right lower lung
   Abdomen
 tense, bowel sounds present
   Extremities
 significant edema in all 4 extremities
   Labs / Radiology
   166 K/uL
   7.8 g/dL
   163 mg/dL
   1.3 mg/dL
   26 mEq/L
   3.6 mEq/L
   17 mg/dL
   99 mEq/L
   136 mEq/L
   23.6 %
   13.5 K/uL
        [image002.jpg]
                             [**2110-6-14**]  04:00 AM
                             [**2110-6-14**]  04:12 AM
                             [**2110-6-14**]  09:40 AM
                             [**2110-6-14**]  09:48 AM
                             [**2110-6-14**]  04:00 PM
                             [**2110-6-14**]  04:09 PM
                             [**2110-6-14**]  10:15 PM
                             [**2110-6-14**]  10:17 PM
                             [**2110-6-15**]  04:10 AM
                             [**2110-6-15**]  04:17 AM
   WBC
   14.7
   13.5
   Hct
   24.3
   23.6
   Plt
   173
   166
   Cr
   1.7
   1.6
   1.5
   1.3
   TCO2
   25
   28
   27
   29
   30
   Glucose
   173
   174
   167
   151
   163
   Other labs: PT / PTT / INR:15.3/32.9/1.3, CK / CKMB /
   Troponin-T:26//0.11, ALT / AST:[**7-31**], Alk Phos / T Bili:173/0.5,
   Differential-Neuts:83.9 %, Lymph:7.6 %, Mono:7.3 %, Eos:0.9 %, Lactic
   Acid:1.2 mmol/L, Albumin:3.2 g/dL, LDH:177 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.1 mg/dL
   Xray
 IJ, ETT, NG in stable position.  Cardiomegaly with R pleural
   effusion and associated atelectasis.
   Micro
   Sputum [**6-14**]
 inadequate specimen
   Blood cx dialysis line [**6-14**]
 pending
   Urine cx [**6-14**]
 pending
   C diff neg.
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 CONSTIPATION (OBSTIPATION, FOS)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTHERMIA
 SHOCK, CARDIOGENIC
   85 yo M with h/o CHF (EF 20%), acute on chronic (stage IV) renal
   failure, recent GIB (h/o AVMs), in MICU with shock and respiratory
   failure.
   # Respiratory failure
 intubated, on PS [**9-18**] with good oxygenation and
   ventilation.  Significant volume loss with cvvh in past few days.  Pt
   has had problems with extubation previously, first [**1-13**] increased frothy
   secretions and also [**1-13**] to failed RSBI.
   - will try to decrease ventilatory support to PS 8/5 today with
   eventual goal of extubation by tomorrow.  RSBI 45 this AM.
   - decrease sedation
   - of note, pt has high chance of failure given his cardiac dz, but
   re-intubation may not be in his best interest.
   # Leukocytosis
   - no septic etiologies identified previously.
   - WBC stable
   - pt afebrile but will not be able to mount febrile response on CVVH
   - prelim sputum cx inadequate specimen; urine cx pending; blood cx
   pending
   - C.diff negative
   - will hold abx unless hemodynamic compromise or pos cx
   # Shock: - likely cardiogenic.  Pt is currently on levophed while being
   aggressively diuresed
   - continue to follow pt
s fluid status and CXR
   - removing 5+ L fluid removal with CVVH per day
   - continue CVVH fluid removal, titrating up levophed to keep MAP>50
   (try to keep around 55)
 goal is still to remove as much fluid as pt
   can tolerate
   - family meeting needed soon to discuss goals of care
   # Anemia
 Hct slowly declining
 today is 24.3
   - GI tract is likely source of pts Hct drop (along with ckd)
 will
   continue PPI [**Hospital1 **]
   - continue to trend pt
s Hct
   - consider giving pt more blood if drops to 21
   # Transudative effusions
 persistent
   - Pt is on CVVH to remove some fluid
   - Continue to monitor effusions on serial CXR
   # Renal failure
 likely secondary to decreased renal perfusion
   - Cr stable/improved today
   # DM2
   - continue with insulin sliding scale and accuchecks
   - ISS increased over weekend; may be sign of infxn
   # Altered Mental Status
 difficult to assess [**1-13**] to patient being
   sedated, but pt responds to voice by opening eyes
   # FEN: caution with IVF, replete electrolytes prn, on TF at 35 ml/hr
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2110-6-14**] 12:59 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2110-6-4**] 08:31 PM
   Dialysis Catheter - [**2110-6-11**] 03:00 PM
   Arterial Line - [**2110-6-12**] 09:50 PM
   Prophylaxis:
   DVT: pboots
   Stress ulcer: pantoprazole
   VAP:  elevate HOB, mouth care
   Comments:
   Communication:  Comments: family meeting needs to take place (possibly
   Monday 10 AM with Linelle).  Family needs to be informed that with our
   aggressive treatment, we have made some progress, but his heart cannot
   be fixed.  We will attempt extubation but there is a moderate chance of
   failure given his cardiac dz.  In this event, reintubation may not be
   in his best interest.
   Code status: Full code
   Disposition: ICU

2110-06-16 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - lengthy conversation with daughter [**Name (NI) 3880**], explained to her that
   despite heroic measures, pt may fail extubation and that reintubation
   may not be in pt's best interest.
   - weaned to PS 5/5 and then went back to PS 10/5
   - diuresed -5L until about 4 pm, then has been largely running even on
   cvvh
   - have increased levophed to 0.15 to keep up with cvvh
   Allergies:
   Benadryl (Injection) (Diphenhydramine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Albuterol Inhaler
   Chlorhexidine Gluconate 0.12% Oral Docusate Sodium (Liquid)
   Fentanyl Citrate
   Insulin
   Ipratropium Bromide MDI
   Magnesium Sulfate
   Midazolam
   Norepinephrine
   Pantoprazole
   Potassium Chloride 10 mEq / 100 mL SW (CRRT OnlyPrismasate (B32 K2)*
   Prismasate (B32 K2)
   Senna
   Sodium CITRATE 4%
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-6-16**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 82 (79 - 87) bpm
   BP: 96/44(57) {69/33(45) - 117/51(71)} mmHg
   RR: 12 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 93 kg (admission): 96.9 kg
   Height: 71 Inch
    CVP: 16 (4 - 16)mmHg
   Total In:
                                                                  8,905 mL
                                                                  2,460 mL
   PO:
   TF:
                                                                    840 mL
                                                                    221 mL
   IVF:
                                                                  7,975 mL
                                                                  2,239 mL
   Blood products:
   Total out:
                                                                 14,165 mL
                                                                  2,212 mL
   Urine:
                                                                    155 mL
                                                                     45 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,260 mL
                                                                    248 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 435 (358 - 510) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 67
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.40/51/117/29/5
   Ve: 7.6 L/min
   PaO2 / FiO2: 390
   Physical Examination
   General: Intubated, sedated, comfortable on vent
   HEENT: Sclera anicteric, MMM, oropharynx clear, PERRL but small
   Neck: supple, no LAD
   Lungs: rales, rhonchi
   CV: irregularly irregular, bradycardic, normal S1 + S2, no murmurs,
   rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Cool most distally, no clubbing, cyanosis but asymmetric edema
   R>L, no cords.
   Labs / Radiology
   168 K/uL
   7.4 g/dL
   175 mg/dL
   1.3 mg/dL
   29 mEq/L
   3.7 mEq/L
   14 mg/dL
   97 mEq/L
   136 mEq/L
   22.9 %
   14.1 K/uL
        [image002.jpg]
                             [**2110-6-15**]  04:17 AM
                             [**2110-6-15**]  09:31 AM
                             [**2110-6-15**]  09:39 AM
                             [**2110-6-15**]  02:27 PM
                             [**2110-6-15**]  04:29 PM
                             [**2110-6-15**]  04:33 PM
                             [**2110-6-15**]  09:55 PM
                             [**2110-6-15**]  10:01 PM
                             [**2110-6-16**]  04:02 AM
                             [**2110-6-16**]  04:04 AM
   WBC
   14.1
   Hct
   22.9
   Plt
   168
   Cr
   1.3
   1.3
   1.3
   TCO2
   30
   30
   30
   31
   32
   33
   Glucose
   137
   179
   212
   175
   Other labs: PT / PTT / INR:14.4/33.7/1.2, CK / CKMB /
   Troponin-T:26//0.11, ALT / AST:[**7-31**], Alk Phos / T Bili:173/0.5,
   Differential-Neuts:83.9 %, Lymph:7.6 %, Mono:7.3 %, Eos:0.9 %, Lactic
   Acid:1.2 mmol/L, Albumin:2.6 g/dL, LDH:177 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   85 yo M with h/o CHF (EF 20%), acute on chronic (stage IV) renal
   failure, recent GIB (h/o AVMs), in MICU with shock and respiratory
   failure.
   # Respiratory failure
 intubated, on PS [**9-18**] with good oxygenation and
   ventilation.  Significant volume loss with cvvh in past few days.  Pt
   has had problems with extubation previously, first [**1-13**] increased frothy
   secretions and also [**1-13**] to failed RSBI.
   - will try to decrease ventilatory support to PS 8/5 today with
   eventual goal of extubation by tomorrow.  RSBI 67 this AM.
   - decrease sedation and change to propofol
   - Goal to wean vent and extubate, but high chance of failure [**1-13**] his
   cardiac dz, and re-intubation may not be in his best interest. Will
   clarify goals with family.
   - Also continuing to remove volume with CVVH
   # Shock: - likely cardiogenic.  Pt is currently on levophed while being
   aggressively diuresed
   - continue to follow pt
s fluid status and CXR
   - Goal of 2L negative today.
   - continue CVVH fluid removal, titrating up levophed to keep MAP>50
   (try to keep around 55)
 goal is still to remove as much fluid as pt
   can tolerate
   - family meeting needed soon to discuss goals of care
   # Leukocytosis
   - no septic etiologies identified previously.
   - WBC stable
   - pt afebrile but will not be able to mount febrile response on CVVH
   - prelim sputum cx inadequate specimen; urine cx pending; blood cx
   pending
   - C.diff negative
   - will hold abx unless hemodynamic compromise or pos cx
   # Anemia
 Hct slowly declining
 today is 24.3
   - GI tract is likely source of pts Hct drop (along with ckd)
 will
   continue PPI [**Hospital1 **]
   - continue to trend pt
s Hct
   - consider giving pt more blood if drops to 21 pending goals of care
   discussion with family.
   # Transudative effusions
 persistent
   - Pt is on CVVH to remove some fluid
   - Continue to monitor effusions on serial CXR
   # Renal failure
 likely secondary to decreased renal perfusion
   - Cr stable today
   -On CVVH
   # DM2
   - continue with insulin sliding scale and accuchecks
   - ISS increased over weekend
   # Altered Mental Status
 difficult to assess [**1-13**] to patient being
   sedated, but pt responds to voice by opening eyes
   # FEN: caution with IVF, replete electrolytes prn, on TF at 35 ml/hr
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2110-6-15**] 12:53 PM 35 mL/hour
   Glycemic Control:  SSI
   Lines:
   Multi Lumen - [**2110-6-4**] 08:31 PM
   Dialysis Catheter - [**2110-6-11**] 03:00 PM
   Arterial Line - [**2110-6-12**] 09:50 PM
   Prophylaxis:
   DVT: SCD,
   Stress ulcer: PPI
   VAP:  HOB >30, oral care
   Comments:
   Communication: With [**Female First Name (un) 3880**].  Need to have family meeting today to
   discuss goals of care Comments:
   Code status: DNR (NO SHOCKS or COMPRESSIONS)
   Disposition: ICU

2110-06-17 06:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Benadryl (Injection) (Diphenhydramine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   Norepinephrine - 0.06 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-6-16**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-6-17**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.1
   HR: 79 (77 - 86) bpm
   BP: 86/38(52) {78/35(48) - 115/59(77)} mmHg
   RR: 31 (12 - 35) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 87.8 kg (admission): 96.9 kg
   Height: 71 Inch
    CVP: 15 (14 - 17)mmHg
   Total In:
                                                                  8,666 mL
                                                                  2,514 mL
   PO:
   TF:
                                                                    840 mL
                                                                    129 mL
   IVF:
                                                                  7,826 mL
                                                                  2,252 mL
   Blood products:
                                                                    133 mL
   Total out:
                                                                 10,942 mL
                                                                  3,147 mL
   Urine:
                                                                    202 mL
                                                                     48 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,276 mL
                                                                   -633 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 363 (109 - 518) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 74
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.48/43/99.[**Numeric Identifier 128**]/29/7
   Ve: 14 L/min
   PaO2 / FiO2: 330
   Physical Examination
   General
 sedated, on ventilator
   CV
 no murmurs, rubs, or gallops appreciated
   Resp
 CTA anteriorly; decreased breath sounds in the lower right lung
   Abdomen
 less tense than previously; bowel sounds present
   Ext
 significantly less edema than previously
   Labs / Radiology
   145 K/uL
   6.8 g/dL
   211 mg/dL
   1.2 mg/dL
   29 mEq/L
   3.4 mEq/L
   14 mg/dL
   96 mEq/L
   135 mEq/L
   20.8 %
   14.2 K/uL
        [image002.jpg]
                             [**2110-6-16**]  04:02 AM
                             [**2110-6-16**]  04:04 AM
                             [**2110-6-16**]  09:49 AM
                             [**2110-6-16**]  10:06 AM
                             [**2110-6-16**]  03:47 PM
                             [**2110-6-16**]  04:02 PM
                             [**2110-6-16**]  09:40 PM
                             [**2110-6-16**]  09:54 PM
                             [**2110-6-17**]  03:32 AM
                             [**2110-6-17**]  03:41 AM
   WBC
   14.1
   14.2
   Hct
   22.9
   20.8
   Plt
   168
   145
   Cr
   1.3
   1.2
   1.2
   1.2
   1.2
   TCO2
   33
   34
   33
   34
   33
   Glucose
   175
   199
   204
   [**Telephone/Fax (3) 9528**]
   Other labs: PT / PTT / INR:14.5/32.8/1.3, CK / CKMB /
   Troponin-T:26//0.11, ALT / AST:[**7-31**], Alk Phos / T Bili:173/0.5,
   Differential-Neuts:83.9 %, Lymph:7.6 %, Mono:7.3 %, Eos:0.9 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:177 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   85 yo M with h/o CHF (EF 20%), acute on chronic (stage IV) renal
   failure, recent GIB (h/o AVMs), in MICU with shock and respiratory
   failure.
   # Respiratory failure
 intubated, on PS 10/5 with good oxygenation and
   ventilation.  Pt has had problems with extubation previously, first [**1-13**]
   increased frothy secretions and also [**1-13**] to failed RSBI.
   - sedation was weaned down yesterday and changed to propofol
   - pt tachypneic this am
 will go up on sedation
 will also increase
   PS as pt
s tachypnea is likely [**1-13**] some element of respiratory
   difficulty
   - eventual goal to wean vent and extubate, but high chance of failure
   [**1-13**] his cardiac dz, and re-intubation may not be in his best interest
   discussed this with family and they are not comfortable with extubating
   patient at this point
   - continue to remove fluid with CVVH, using pressors if necessary to
   maintain pressure
 I/O negative 2.2L yesterday
   - will slow down with CVVH fluid removal somewhat
 goal of negative 2
   L off today
   # Shock
 likely cardiogenic.  Pt on levophed and CVVH
   - continue to follow pt
s fluid status and CXR
   - continue CVVH fluid removal, titrating up levophed to keep MAP>50
   (try to keep around 55)
   - goal
 negative 2L again today
   # Leukocytosis
   - WBC still elevated at 14.2 but pretty stable at that level
   - pt afebrile but will not be able to mount febrile response on CVVH
   - urine cx growing out yeast; blood cx pending
   - sputum growing Klebsiella pneumo (susceptible to zosyn) and yeast
   - C.diff negative
   - reconsider restarting zosyn
   # Anemia
 Hct slowly declining
 today is 20.8
   - GI tract is likely source of pts Hct drop (along with CKD)
 will
   continue PPI [**Hospital1 **]
   - transfuse one unit of blood today
   - continue to monitor Hct
   # Transudative effusions
 persistent
   - Pt is on CVVH to remove fluid
   - Continue to monitor effusions on serial CXR
   # Renal failure
 likely secondary to decreased renal perfusion
   - Cr stable and WNL on CVVH
   # DM2
   - continue with insulin sliding scale and accuchecks
   - blood sugars still high
   - will need to go up on insulin dosing today
   # Altered Mental Status
 difficult to assess [**1-13**] to patient being
   sedated
   # FEN: caution with IVF, replete electrolytes prn, on TF at 35 ml/hr
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2110-6-4**] 08:31 PM
   Dialysis Catheter - [**2110-6-11**] 03:00 PM
   Arterial Line - [**2110-6-12**] 09:50 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate); ok to intubate
   Disposition:ICU

2110-06-18 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**6-17**]
   -increased his PS because he was tachypneic
   -pt still tachypneic in the evening - swtiched back to AC
   -increased evening lantus dose from 5 to 10
   -pt not on zosyn - on meropenem instead
   Allergies:
   Benadryl (Injection) (Diphenhydramine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin - [**2110-6-17**] 01:00 PM
   Meropenem - [**2110-6-18**] 04:00 AM
   Infusions:
   KCl (CRRT) - 3 mEq./hour
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   Other ICU medications:
   Albuterol Inhaler
   Chlorhexidine Gluconate 0.12% Oral Docusate Sodium (Liquid)
   Insulin
   Ipratropium Bromide MDI
   Magnesium Sulfate
   Meropenem
   Neutra-Phos
   Norepinephrine
   Pantoprazole
   Potassium Chloride
   Prismasate (B32 K2)
   Propofol
   Senna
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-6-18**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 88 (74 - 90) bpm
   BP: 100/45(61) {78/37(51) - 109/50(67)} mmHg
   RR: 18 (16 - 39) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 87.8 kg (admission): 96.9 kg
   Height: 71 Inch
    CVP: 16 (6 - 16)mmHg
   Total In:
                                                                  9,511 mL
                                                                  2,608 mL
   PO:
   TF:
                                                                    514 mL
                                                                    236 mL
   IVF:
                                                                  8,648 mL
                                                                  2,372 mL
   Blood products:
                                                                    274 mL
   Total out:
                                                                 11,928 mL
                                                                  2,383 mL
   Urine:
                                                                    225 mL
                                                                     85 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,417 mL
                                                                    225 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 353 (353 - 463) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 110
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.50/41/99.[**Numeric Identifier 253**]/28/8
   Ve: 10.1 L/min
   PaO2 / FiO2: 333
   Physical Examination
   General
 Intubated sedated, on ventilator
   CV
 no murmurs, rubs, or gallops appreciated
   Resp
 CTA anteriorly; decreased breath sounds in the lower right lung
   Abdomen
 Soft/NT/ND/ bowel sounds present
   Ext
 significantly less edema than previously
   Labs / Radiology
   142 K/uL
   7.1 g/dL
   230 mg/dL
   1.1 mg/dL
   28 mEq/L
   3.6 mEq/L
   14 mg/dL
   95 mEq/L
   134 mEq/L
   21.8 %
   18.1 K/uL
        [image002.jpg]
                             [**2110-6-17**]  03:41 AM
                             [**2110-6-17**]  09:42 AM
                             [**2110-6-17**]  10:02 AM
                             [**2110-6-17**]  11:48 AM
                             [**2110-6-17**]  04:32 PM
                             [**2110-6-17**]  04:45 PM
                             [**2110-6-17**]  09:33 PM
                             [**2110-6-17**]  09:50 PM
                             [**2110-6-18**]  04:14 AM
                             [**2110-6-18**]  04:26 AM
   WBC
   18.1
   Hct
   23.7
   21.8
   Plt
   142
   Cr
   1.1
   1.2
   1.1
   TCO2
   33
   33
   32
   32
   33
   Glucose
   143
   197
   209
   230
   Other labs: PT / PTT / INR:14.5/32.8/1.3, CK / CKMB /
   Troponin-T:26//0.11, ALT / AST:[**7-31**], Alk Phos / T Bili:173/0.5,
   Differential-Neuts:83.9 %, Lymph:7.6 %, Mono:7.3 %, Eos:0.9 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:177 IU/L, Ca++:9.3 mg/dL,
   Mg++:1.4 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
   85 yo M with h/o CHF (EF 20%), acute on chronic (stage IV) renal
   failure, recent GIB (h/o AVMs), in MICU with shock and respiratory
   failure.
   # Respiratory failure
 intubated, on PS 10/5 with good oxygenation and
   ventilation.  Pt has had problems with extubation previously, first [**1-13**]
   increased frothy secretions and also [**1-13**] to failed RSBI.
   - pt was tachypneic yesterday and was switched to AC
   - eventual goal to wean vent and extubate, but high chance of failure
   [**1-13**] his cardiac dz, and re-intubation may not be in his best interest
   discussed this with family and they are not comfortable with extubating
   patient at this point
   - continue to remove fluid with CVVH, using pressors if necessary to
   maintain pressure
 I/O negative 2.4L yesterday
   - goal of negative 2 L off today
   # Shock
 likely cardiogenic.  Pt on levophed and CVVH
   - continue to follow pt
s fluid status and CXR
   - continue CVVH fluid removal, titrating up levophed to keep MAP>50
   (try to keep around 55)
   - goal
 negative 2L again today
   # Leukocytosis
   - WBC elevated at 18.1 from 14.2 yesterday
   - pt afebrile but will not be able to mount febrile response on CVVH
   - Concern for infxn and will send Blood/Urine/Sputum Cx today in light
   of rising white count and worsening respiratory status
   - urine cx from [**6-14**] growing out yeast; blood cx pending
   - sputum cx from 7/4growing Klebsiella pneumo and yeast
   - C.diff negative
   - Pt. on meropenem
   # Anemia
 Hct slowly declining
 today is 21.8
   - GI tract is likely source of pts Hct drop (along with CKD)
 will
   continue PPI [**Hospital1 **]
   - Given pace of Hct drop will need to transfuse additional unit today.
   - transfuse one unit of blood today
   - continue to monitor Hct and transfuse as needed
   # Transudative effusions
 persistent/worsening
   - Pt is on CVVH to remove fluid
   - Continue to monitor effusions on serial CXR
   # Renal failure
 likely secondary to decreased renal perfusion
   - Cr stable and WNL on CVVH
   # DM2
   - continue with insulin sliding scale and accuchecks
   - blood sugars still high
   - standing insulin was increased yesterday will continue to monitor.
   # Altered Mental Status
 difficult to assess [**1-13**] to patient being
   sedated
   # FEN: caution with IVF, replete electrolytes prn, on TF at 35 ml/hr
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2110-6-17**] 01:00 PM 35 mL/hour
   Glycemic Control:  Standing Insulin / SSI
   Lines:
   Multi Lumen - [**2110-6-4**] 08:31 PM
   Dialysis Catheter - [**2110-6-11**] 03:00 PM
   Arterial Line - [**2110-6-12**] 09:50 PM
   Prophylaxis:
   DVT: SCD
   Stress ulcer: PPI
   VAP:  Oral care, HOB>30, on abx for PNA
   Comments:
   Communication: With [**Female First Name (un) 3880**] and Pts brother Comments:
   [**Name2 (NI) 66**] status: DNR
   Disposition: MICU

2110-06-19 06:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2110-6-18**] 10:00 AM
 SPUTUM CULTURE - At [**2110-6-18**] 10:30 AM
 BLOOD CULTURED - At [**2110-6-18**] 12:30 PM
 STOOL CULTURE - At [**2110-6-18**] 03:00 PM
   Allergies:
   Benadryl (Injection) (Diphenhydramine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin - [**2110-6-17**] 01:00 PM
   Meropenem - [**2110-6-19**] 04:15 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Norepinephrine - 0.06 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-6-18**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-6-19**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.6
C (96
   HR: 78 (78 - 89) bpm
   BP: 100/47(64) {90/39(54) - 121/59(79)} mmHg
   RR: 20 (19 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 81.3 kg (admission): 96.9 kg
   Height: 71 Inch
    CVP: 10 (6 - 14)mmHg
   Total In:
                                                                  9,743 mL
                                                                  2,450 mL
   PO:
   TF:
                                                                    840 mL
                                                                    212 mL
   IVF:
                                                                  8,627 mL
                                                                  2,238 mL
   Blood products:
                                                                    276 mL
   Total out:
                                                                 14,896 mL
                                                                  3,905 mL
   Urine:
                                                                    355 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,153 mL
                                                                 -1,455 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 80
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.48/37/134/24/4
   Ve: 10.2 L/min
   PaO2 / FiO2: 447
   Physical Examination
   General
 sedated, on ventilator
   CV- irregular rhythm; no murmurs, rubs, or gallops
   Resp
 clear to auscultation
   Abdomen
 softer than previous, non-distended, BS present
   Extremities
 significant less edema than previously; still has pitting
   edema in extremities, though
   Labs / Radiology
   170 K/uL
   8.4 g/dL
   237 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.9 mEq/L
   15 mg/dL
   98 mEq/L
   135 mEq/L
   25.6 %
   15.4 K/uL
        [image002.jpg]
                             [**2110-6-17**]  09:50 PM
                             [**2110-6-18**]  04:14 AM
                             [**2110-6-18**]  04:26 AM
                             [**2110-6-18**]  09:42 AM
                             [**2110-6-18**]  10:13 AM
                             [**2110-6-18**]  03:44 PM
                             [**2110-6-18**]  04:03 PM
                             [**2110-6-18**]  09:53 PM
                             [**2110-6-18**]  09:54 PM
                             [**2110-6-19**]  04:20 AM
   WBC
   18.1
   15.4
   Hct
   21.8
   24.7
   25.6
   Plt
   142
   170
   Cr
   1.1
   1.2
   1.1
   1.1
   1.1
   TCO2
   32
   33
   31
   33
   28
   Glucose
   230
   214
   207
   228
   237
   Other labs: PT / PTT / INR:14.5/32.8/1.3, CK / CKMB /
   Troponin-T:26//0.11, ALT / AST:[**7-31**], Alk Phos / T Bili:173/0.5,
   Differential-Neuts:83.9 %, Lymph:7.6 %, Mono:7.3 %, Eos:0.9 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:177 IU/L, Ca++:9.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.3 mg/dL
   Sputum cx
 GNR/yeast
   Blood cx
 Pending
   Stool cx
 pending
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 CONSTIPATION (OBSTIPATION, FOS)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTHERMIA
 SHOCK, CARDIOGENIC
   85 yo M with h/o CHF (EF 20%), acute on chronic (stage IV) renal
   failure, recent GIB (h/o AVMs), in MICU with shock and respiratory
   failure.
   # Respiratory failure
 intubated, on CMV PEEP 5 FiO2 30% with good
   oxygenation and ventilation.  Pt has had problems with extubation
   previously, first [**1-13**] increased frothy secretions and also [**1-13**] to
   failed RSBI.
   - on levophed at 0.06 and propofol at 25
   - RSBI was 80 this morning
   - will attempt to switch to PS today
   - eventual goal to wean vent and extubate, but high chance of failure
   [**1-13**] his cardiac dz, and re-intubation may not be in his best interest
   discussed this with family and they are not comfortable with extubating
   patient at this point
   - continue to remove fluid with CVVH, using pressors if necessary to
   maintain pressure
 I/O negative 5.1L yesterday
   # Shock
 likely cardiogenic.  Pt on levophed and CVVH
   - continue to follow pt
s fluid status and CXR
   - continue CVVH fluid removal, titrating up levophed to keep MAP>50
   (try to keep around 55)
   # Leukocytosis
   - WBC lower today (at 15.4)
   - pt afebrile but will not be able to mount febrile response on CVVH
   - cultures were sent yesterday; sputum cx
 GNR/yeast; blood cx
   Pending; stool cx
 pending
   - urine cx from [**6-14**] growing out yeast
   - sputum cx from 7/4growing Klebsiella pneumo and yeast
   - C.diff negative
   - will continue meropenem
   - will also change foley and start fluconazole for 3 days to yeast in
   urine
   # Anemia
 Hct 25.6 today
   - GI tract is likely source of pts Hct drop (along with CKD)
 will
   continue PPI [**Hospital1 **]
   - continue to monitor Hct and transfuse if below 21
   # Transudative effusions
 persistent/worsening
   - Pt is on CVVH to remove fluid
   - Continue to monitor effusions on serial CXR
   # Renal failure
 likely secondary to decreased renal perfusion
   - Cr stable and WNL on CVVH
   # DM2
   - continue with insulin sliding scale and accuchecks
   - blood sugars still high
   - increase Lantus to 20 U daily
   # Altered Mental Status
 difficult to assess [**1-13**] to patient being
   sedated
   # FEN: caution with IVF, replete electrolytes prn, on TF at 35 ml/hr
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2110-6-18**] 12:55 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2110-6-4**] 08:31 PM
   Dialysis Catheter - [**2110-6-11**] 03:00 PM
   Arterial Line - [**2110-6-12**] 09:50 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP:  mouth care; HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR ; of to intubate
   Disposition: ICU

2110-06-20 05:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - had a hypotensive episode, CVVH stopped
   Allergies:
   Benadryl (Injection) (Diphenhydramine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin - [**2110-6-17**] 01:00 PM
   Meropenem - [**2110-6-20**] 04:00 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-6-19**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-6-20**] 05:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 84 (72 - 91) bpm
   BP: 96/45(62) {70/36(47) - 109/52(68)} mmHg
   RR: 20 (20 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 75 kg (admission): 96.9 kg
   Height: 71 Inch
    CVP: 9 (1 - 9)mmHg
   Total In:
                                                                  9,610 mL
                                                                  2,376 mL
   PO:
   TF:
                                                                    840 mL
                                                                    187 mL
   IVF:
                                                                  8,680 mL
                                                                  2,189 mL
   Blood products:
   Total out:
                                                                 14,122 mL
                                                                  2,103 mL
   Urine:
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,512 mL
                                                                    273 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 403 (403 - 403) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: Hemodynamic Instability
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.45/36/121/24/2
   Ve: 10.2 L/min
   PaO2 / FiO2: 403
   Physical Examination
   General
 sedated, on ventilator
   CV- irregular rhythm; no murmurs, rubs, or gallops
   Resp
 clear to auscultation
   Abdomen
 softer than previous, non-distended, BS present
   Extremities
 significant less edema than previously; still has pitting
   edema in extremities, though
   Labs / Radiology
   181 K/uL
   7.4 g/dL
   239 mg/dL
   1.1 mg/dL
   24 mEq/L
   4.2 mEq/L
   17 mg/dL
   103 mEq/L
   139 mEq/L
   23.7 %
   15.0 K/uL
        [image002.jpg]
                             [**2110-6-19**]  04:20 AM
                             [**2110-6-19**]  09:45 AM
                             [**2110-6-19**]  09:54 AM
                             [**2110-6-19**]  02:47 PM
                             [**2110-6-19**]  04:10 PM
                             [**2110-6-19**]  04:20 PM
                             [**2110-6-19**]  09:53 PM
                             [**2110-6-19**]  09:57 PM
                             [**2110-6-20**]  03:57 AM
                             [**2110-6-20**]  03:58 AM
   WBC
   15.4
   15.0
   Hct
   25.6
   23.7
   Plt
   170
   181
   Cr
   1.1
   1.1
   1.1
   1.1
   TCO2
   26
   27
   28
   27
   26
   Glucose
   237
   267
   310
   289
   239
   Other labs: PT / PTT / INR:13.7/31.3/1.2, CK / CKMB /
   Troponin-T:26//0.11, ALT / AST:[**7-31**], Alk Phos / T Bili:173/0.5,
   Differential-Neuts:83.9 %, Lymph:7.6 %, Mono:7.3 %, Eos:0.9 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:177 IU/L, Ca++:9.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   U/A ([**6-18**]) showing >50 WBCs, moderate bacteria, and many yeast
   Blood Cx
 negative on [**6-4**] and [**6-12**]
 more recent blood cx pending
   Urine Cx
 yeast
   Sputum Cx
 Klebsiella and yeast
   Stool Cx negative
   C.Diff negative
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 CONSTIPATION (OBSTIPATION, FOS)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTHERMIA
 SHOCK, CARDIOGENIC
   85 yo M with h/o CHF (EF 20%), acute on chronic (stage IV) renal
   failure, recent GIB (h/o AVMs), in MICU with shock and respiratory
   failure.
   # Respiratory failure
 intubated, on CMV PEEP 5 FiO2 30% with good
   oxygenation and ventilation.  Pt has had problems with extubation
   previously, first [**1-13**] increased frothy secretions and also [**1-13**] to
   failed RSBI.
   - on levophed and propofol
   - switched to PS yesterday and pt tired out - will attempt to switch to
   PS today again
   - eventual goal to wean vent and extubate, but high chance of failure
   [**1-13**] his cardiac dz, and re-intubation may not be in his best interest
   discussed this with family and they are not comfortable with extubating
   patient at this point
   - continue with fluid removal via CVVH, keeping in mind that it may not
   be possible to remove as much fluid as we have been
   # Shock
 likely cardiogenic.  Pt on levophed and CVVH
   - continue to follow pt
s fluid status and CXR
   - continue CVVH fluid removal, titrating up levophed to keep MAP>50
   (try to keep around 55)
   # Leukocytosis
   - WBC lower today (at 15.0)
   - pt afebrile but will not be able to mount febrile response on CVVH
   - sputum cx
 pseudomonas/yeast; urine cx
 yeast; blood cx
 pending;
   stool cx
 pending
   - continue meropenem until more culture data is back
   - changed foley and started fluconazole (3 day course) yesterday for
   yeast in urine
   # Anemia
 hct down to 23.7 today
   - GI tract is likely source of pts Hct drop (along with CKD)
 will
   continue PPI [**Hospital1 **]
   - continue to monitor Hct and transfuse if below 21
   # Transudative effusions
 persistent/worsening
   - Pt is on CVVH to remove fluid
   - Continue to monitor effusions on serial CXR
   # Renal failure
 likely secondary to decreased renal perfusion
   - Cr stable and WNL on CVVH
   # DM2
   - continue with insulin sliding scale and accuchecks
   - blood sugars still high
   - increase Lantus to 25 U daily
   # Altered Mental Status
 difficult to assess [**1-13**] to patient being
   sedated
   # FEN: caution with IVF, replete electrolytes prn, on TF at 35 ml/hr
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2110-6-19**] 12:45 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2110-6-4**] 08:31 PM
   Dialysis Catheter - [**2110-6-11**] 03:00 PM
   Arterial Line - [**2110-6-12**] 09:50 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate); ok to intubate
   Disposition:ICU

2110-06-21 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -TG normal
   -increased Lantus
   -being run fluid even
   - on PS 10/5
   - on levophed at 0.04
   Allergies:
   Benadryl (Injection) (Diphenhydramine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Meropenem - [**2110-6-21**] 04:08 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   Norepinephrine - 0.04 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-6-20**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-6-21**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 35.8
C (96.5
   HR: 81 (72 - 89) bpm
   BP: 99/44(61) {71/35(47) - 130/58(79)} mmHg
   RR: 19 (19 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 71.4 kg (admission): 96.9 kg
   Height: 71 Inch
    CVP: 10 (4 - 12)mmHg
   Total In:
                                                                  8,170 mL
                                                                  2,576 mL
   PO:
   TF:
                                                                    840 mL
                                                                    232 mL
   IVF:
                                                                  7,250 mL
                                                                  2,343 mL
   Blood products:
   Total out:
                                                                  8,254 mL
                                                                  2,769 mL
   Urine:
                                                                    207 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -84 mL
                                                                   -193 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 479 (444 - 479) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 97
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.42/41/147/22/2
   Ve: 12 L/min
   PaO2 / FiO2: 490
   Physical Examination
   General
 sedated, on ventilator
   Lungs
 mild inspiratory crackles
   CV- faint II/VI systolic murmur
   Abdomen
 soft, non-distended, BS present
   Extremities
 significant less edema than previously; 1+ currently
   Labs / Radiology
   180 K/uL
   7.3 g/dL
   226 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.0 mEq/L
   21 mg/dL
   104 mEq/L
   138 mEq/L
   23.4 %
   13.9 K/uL
        [image002.jpg]
                             [**2110-6-20**]  03:57 AM
                             [**2110-6-20**]  03:58 AM
                             [**2110-6-20**]  09:46 AM
                             [**2110-6-20**]  09:55 AM
                             [**2110-6-20**]  04:11 PM
                             [**2110-6-20**]  04:20 PM
                             [**2110-6-20**]  09:41 PM
                             [**2110-6-20**]  09:58 PM
                             [**2110-6-21**]  03:53 AM
                             [**2110-6-21**]  04:03 AM
   WBC
   15.0
   13.9
   Hct
   23.7
   23.4
   Plt
   181
   180
   Cr
   1.1
   1.1
   0.9
   TCO2
   26
   28
   27
   27
   28
   Glucose
   [**Telephone/Fax (3) 9568**]49
   226
   Other labs: PT / PTT / INR:13.3/29.4/1.1, CK / CKMB /
   Troponin-T:26//0.11, ALT / AST:[**7-31**], Alk Phos / T Bili:173/0.5,
   Differential-Neuts:83.9 %, Lymph:7.6 %, Mono:7.3 %, Eos:0.9 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:177 IU/L, Ca++:9.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 CONSTIPATION (OBSTIPATION, FOS)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTHERMIA
 SHOCK, CARDIOGENIC
   85 yo M with h/o CHF (EF 20%), acute on chronic (stage IV) renal
   failure, recent GIB (h/o AVMs), in MICU with shock and respiratory
   failure.
   # Respiratory failure
 intubated, on PS 10/5, with good oxygenation
   and ventilation.
   - approaching dry weight and markedly negative I/O via CVVH.
   - eventual goal to wean vent and extubate, but high chance of failure
   [**1-13**] his cardiac dz, and re-intubation may not be in his best interest
   discussed this with family and they are not comfortable with extubating
   patient at this point
   - continue with fluid removal via CVVH, keeping in mind that it may not
   be possible to remove as much fluid as we have been
   - will run cvvh even for now, to maintain adequate maps.
   - will check lactate as marker of tissue perfusion
   # Shock
 likely cardiogenic.  Pt on levophed and CVVH
   - continue to follow pt
s fluid status and CXR.  CXR slightly improved.
   - continue CVVH fluid removal, titrating up levophed to keep MAP>50
   (try to keep around 55)
   # Leukocytosis
   - WBC lower today (at 13.9)
   - pt afebrile but will not be able to mount febrile response on CVVH
   - little evidence to suggest VAP
   - sputum cx
 pseudomonas/yeast; urine cx
 yeast; blood cx
 pending;
   stool cx
 pending
   - will get surveillance cultures today, including blood fungal cx
   - continue meropenem until more culture data is back
   - changed foley and started fluconazole (3 day course) yesterday for
   yeast in urine.  Start date = [**2110-6-19**].
   # Anemia
 hct down to 23.4 today
   - GI tract is likely source of pts Hct drop (along with CKD)
 will
   continue PPI [**Hospital1 **]
   - continue to monitor Hct and transfuse if below 21
   # Transudative effusions
 stable
   - Pt is on CVVH to remove fluid
   - Continue to monitor effusions on serial CXR
   # Renal failure
 likely secondary to decreased renal perfusion
   - Cr stable, on CVVH
   # DM2
   - continue with insulin sliding scale and accuchecks
   - blood sugars still high
   - increased Lantus to 25 U daily
   # Altered Mental Status
 difficult to assess [**1-13**] to patient being
   sedated
   # FEN: caution with IVF, replete electrolytes prn, on TF at 35 ml/hr
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2110-6-20**] 12:13 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2110-6-4**] 08:31 PM
   Dialysis Catheter - [**2110-6-11**] 03:00 PM
   Arterial Line - [**2110-6-12**] 09:50 PM
   Prophylaxis:
   DVT: pboots
   Stress ulcer: pantoprazole
   VAP:  elevate HOB, mouth care
   Comments:
   Communication:  Comments:
   Code status: Remains DNR
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   Critical Care;
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mr [**Known lastname 3887**] appears to be hypovolemic after aggressive CVVH over past few
   days with CVP of 4, dry MM and improving skin turgor ( not as
   edematous). He remains on CPAP/ PSV but sedated with low dose propafol
   on account of cough.
   Bun/ Creat are 21/0.9 andHct is low at 23.4/ he is now on meropenem for
   VAP in addition to diflucan. Plans to address with family will be
   timing of trach/ PEG if they are agreeable since his wean will be
   prolonged on account of severe weakness that has compounded
   cardiopulmonary problems on the ventilator.
   Patient is critically ill
   Total time: 30 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 1973**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 1015**]
   [**Location (un) 7530**], KS-B23
   [**Location (un) 223**], [**Numeric Identifier 4370**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1973**], MD
   on:[**2110-6-21**] 15:52 ------

2110-06-22 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2110-6-21**] 04:17 PM
   [**6-21**]
   - plan to run cvvh even
   - surveillance cx ordered
   Allergies:
   Benadryl (Injection) (Diphenhydramine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Meropenem - [**2110-6-22**] 04:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-6-21**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-6-22**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.5
   HR: 83 (79 - 90) bpm
   BP: 101/49(65) {82/40(55) - 120/59(78)} mmHg
   RR: 24 (21 - 36) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 71.6 kg (admission): 96.9 kg
   Height: 71 Inch
    CVP: 12 (5 - 13)mmHg
   Total In:
                                                                 10,072 mL
                                                                  1,960 mL
   PO:
   TF:
                                                                    841 mL
                                                                    264 mL
   IVF:
                                                                  9,172 mL
                                                                  1,695 mL
   Blood products:
   Total out:
                                                                  9,530 mL
                                                                  1,553 mL
   Urine:
                                                                    213 mL
                                                                     35 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                    542 mL
                                                                    407 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 439 (357 - 473) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 69
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.42/41/146/24/2
   Ve: 9.9 L/min
   PaO2 / FiO2: 487
   Physical Examination
   General
 sedated, on ventilator
   Lungs
 mild inspiratory crackles
   CV- faint II/VI systolic murmur
   Abdomen
 soft, non-distended, BS present
   Extremities
 significant less edema than previously; 1+ currently
   Labs / Radiology
   186 K/uL
   7.0 g/dL
   196 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.2 mEq/L
   18 mg/dL
   103 mEq/L
   140 mEq/L
   21.7 %
   13.6 K/uL
        [image002.jpg]
                             [**2110-6-20**]  04:20 PM
                             [**2110-6-20**]  09:41 PM
                             [**2110-6-20**]  09:58 PM
                             [**2110-6-21**]  03:53 AM
                             [**2110-6-21**]  04:03 AM
                             [**2110-6-21**]  10:13 AM
                             [**2110-6-21**]  04:25 PM
                             [**2110-6-21**]  10:00 PM
                             [**2110-6-22**]  03:51 AM
                             [**2110-6-22**]  04:12 AM
   WBC
   13.9
   13.1
   13.6
   Hct
   23.4
   22.2
   21.7
   Plt
   180
   168
   186
   Cr
   0.9
   1.1
   1.0
   TCO2
   27
   27
   28
   28
   28
   27
   28
   Glucose
   249
   226
   203
   196
   Other labs: PT / PTT / INR:13.4/29.9/1.1, CK / CKMB /
   Troponin-T:26//0.11, ALT / AST:[**7-31**], Alk Phos / T Bili:173/0.5,
   Differential-Neuts:83.9 %, Lymph:7.6 %, Mono:7.3 %, Eos:0.9 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:177 IU/L, Ca++:9.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 CONSTIPATION (OBSTIPATION, FOS)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTHERMIA
 SHOCK, CARDIOGENIC
   85 yo M with h/o CHF (EF 20%), acute on chronic (stage IV) renal
   failure, recent GIB (h/o AVMs), in MICU with shock and respiratory
   failure.
   # Respiratory failure
 intubated, on PS 10/5, with good oxygenation
   and ventilation.
   - approaching dry weight and markedly negative I/O via CVVH.
   - eventual goal to wean vent and extubate, but high chance of failure
   [**1-13**] his cardiac dz, and re-intubation may not be in his best interest
   discussed this with family and they are not comfortable with extubating
   patient at this point
   - will run cvvh even for now, to maintain adequate maps.
   - Plan for Trach/Peg early in the week.  Have spoken with [**Female First Name (un) 3880**] and
   she will consent for procedure.
   # Shock
 likely cardiogenic.  Pt on levophed and CVVH
   - continue to follow pt
s fluid status and CXR.  CXR slightly improved.
   - Use levophed to keep MAP>50 (try to keep around 55)
   # Leukocytosis
   - WBC lower today (at 13.6)
   - pt afebrile but will not be able to mount febrile response on CVVH
   - little evidence to suggest VAP
   - sputum cx
 pseudomonas/yeast; urine cx
 yeast; blood cx
 pending;
   stool cx
 pending
   - will get surveillance cultures today, including blood fungal cx
   - continue meropenem until more culture data is back
   - changed foley and started fluconazole (3 day course) yesterday for
   yeast in urine.  Start date = [**2110-6-19**].
   # Anemia
 hct down to 21.7 today
   - GI tract is likely source of pts Hct drop (along with CKD)
 will
   continue PPI [**Hospital1 **]
   - Will transfuse 1unit pRBC and continue to monitor Hct; with
   transfusion goal of Hct > 21
   # Transudative effusions
 stable
   - Pt is on CVVH to remove fluid
   - Continue to monitor effusions on serial CXR
   # Renal failure
 likely secondary to decreased renal perfusion
   - On CVVH
   # DM2
   - continue with insulin sliding scale and accuchecks
   - blood sugars still high
   - increased Lantus to 25 U daily
   # Altered Mental Status
 difficult to assess [**1-13**] to patient being
   sedated
   # FEN: caution with IVF, replete electrolytes prn, on TF at 35 ml/hr
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2110-6-21**] 12:11 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2110-6-4**] 08:31 PM
   Dialysis Catheter - [**2110-6-11**] 03:00 PM
   Arterial Line - [**2110-6-12**] 09:50 PM
   Prophylaxis:
   DVT: SCD
   Stress ulcer: Pantoprazole
   VAP:  HOB>30, Oral Care
   Comments:
   Communication: With [**Female First Name (un) 3880**] Comments:
   Code status: Full code
   Disposition: MICU

2110-06-23 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2110-6-22**] 06:14 PM
 SPUTUM CULTURE - At [**2110-6-22**] 06:14 PM
   Allergies:
   Benadryl (Injection) (Diphenhydramine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Meropenem - [**2110-6-22**] 01:05 PM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Propofol - 12.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-6-22**] 08:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-6-23**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.4
C (99.4
   HR: 88 (80 - 94) bpm
   BP: 111/47(65) {86/38(53) - 128/57(76)} mmHg
   RR: 25 (24 - 43) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.7 kg (admission): 96.9 kg
   Height: 71 Inch
    CVP: 15 (6 - 15)mmHg
   Total In:
                                                                  3,627 mL
                                                                    395 mL
   PO:
   TF:
                                                                    840 mL
                                                                    240 mL
   IVF:
                                                                  2,405 mL
                                                                    155 mL
   Blood products:
                                                                    252 mL
   Total out:
                                                                  1,753 mL
                                                                     94 mL
   Urine:
                                                                    235 mL
                                                                     94 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,874 mL
                                                                    301 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 430 (357 - 432) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 60
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 12 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   225 K/uL
   7.5 g/dL
   193 mg/dL
   2.0 mg/dL
   25 mEq/L
   4.3 mEq/L
   44 mg/dL
   105 mEq/L
   140 mEq/L
   22.8 %
   15.6 K/uL
        [image002.jpg]
                             [**2110-6-20**]  09:41 PM
                             [**2110-6-20**]  09:58 PM
                             [**2110-6-21**]  03:53 AM
                             [**2110-6-21**]  04:03 AM
                             [**2110-6-21**]  10:13 AM
                             [**2110-6-21**]  04:25 PM
                             [**2110-6-21**]  10:00 PM
                             [**2110-6-22**]  03:51 AM
                             [**2110-6-22**]  04:12 AM
                             [**2110-6-23**]  03:15 AM
   WBC
   13.9
   13.1
   13.6
   15.6
   Hct
   23.4
   22.2
   21.7
   22.8
   Plt
   180
   168
   186
   225
   Cr
   0.9
   1.1
   1.0
   2.0
   TCO2
   27
   28
   28
   28
   27
   28
   Glucose
   249
   226
   203
   196
   193
   Other labs: PT / PTT / INR:13.4/29.9/1.1, CK / CKMB /
   Troponin-T:26//0.11, ALT / AST:[**7-31**], Alk Phos / T Bili:173/0.5,
   Differential-Neuts:83.9 %, Lymph:7.6 %, Mono:7.3 %, Eos:0.9 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:177 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 CONSTIPATION (OBSTIPATION, FOS)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTHERMIA
 SHOCK, CARDIOGENIC
   85 yo M with h/o CHF (EF 20%), acute on chronic (stage IV) renal
   failure, recent GIB (h/o AVMs), in MICU with shock and respiratory
   failure.
   # Respiratory failure
 intubated, on PS 10/5, with good oxygenation
   and ventilation.
   - approaching dry weight and markedly negative I/O via CVVH.
   - eventual goal to wean vent and extubate, but high chance of failure
   [**1-13**] his cardiac dz, and re-intubation may not be in his best interest
   discussed this with family and they are not comfortable with extubating
   patient at this point
   - continue with fluid removal via CVVH, keeping in mind that it may not
   be possible to remove as much fluid as we have been
   - will run cvvh even for now, to maintain adequate maps.
   - will check lactate as marker of tissue perfusion
   # Shock
 likely cardiogenic.  Pt on levophed and CVVH
   - continue to follow pt
s fluid status and CXR.  CXR slightly improved.
   - continue CVVH fluid removal, titrating up levophed to keep MAP>50
   (try to keep around 55)
   # Leukocytosis
   - WBC lower today (at 13.9)
   - pt afebrile but will not be able to mount febrile response on CVVH
   - little evidence to suggest VAP
   - sputum cx
 pseudomonas/yeast; urine cx
 yeast; blood cx
 pending;
   stool cx
 pending
   - will get surveillance cultures today, including blood fungal cx
   - continue meropenem until more culture data is back
   - changed foley and started fluconazole (3 day course) yesterday for
   yeast in urine.  Start date = [**2110-6-19**].
   # Anemia
 hct down to 23.4 today
   - GI tract is likely source of pts Hct drop (along with CKD)
 will
   continue PPI [**Hospital1 **]
   - continue to monitor Hct and transfuse if below 21
   # Transudative effusions
 stable
   - Pt is on CVVH to remove fluid
   - Continue to monitor effusions on serial CXR
   # Renal failure
 likely secondary to decreased renal perfusion
   - Per Renal, pt will need RRT-CVVH after peg/trach. If off CVVH
   decrease Meropenum to 500 Q24.
   # DM2
   - continue with insulin sliding scale and accuchecks
   - blood sugars still high
   - increased Lantus to 25 U daily
   # Altered Mental Status
 difficult to assess [**1-13**] to patient being
   sedated
   # FEN: caution with IVF, replete electrolytes prn, on TF at 35 ml/hr
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2110-6-22**] 12:11 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2110-6-4**] 08:31 PM
   Dialysis Catheter - [**2110-6-11**] 03:00 PM
   Arterial Line - [**2110-6-12**] 09:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2110-06-25 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**6-24**]
   -Sch for trach/peg [**6-25**]
   -increased Glargine
   -case management
   -Intermit levophed requirement
   -started on Midodrine
   -Plan is to place tunneled line by IR.
   -completed [**Last Name (un) **] course No evidence of active infection.
   -non contrast head CT: No evidence of acute intracranial
   abnormalities.  The orogastric tube makes a loop in the nasopharynx,
   then course inferiorly into the oropharynx.
   -unsuccessful PICC, will need IR
   Allergies:
   Benadryl (Injection) (Diphenhydramine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Meropenem - [**2110-6-24**] 12:00 PM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2110-6-24**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-6-25**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.6
C (97.8
   HR: 85 (80 - 92) bpm
   BP: 107/53(71) {70/33(44) - 113/58(75)} mmHg
   RR: 17 (15 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Wgt (current): 71.8 kg (admission): 96.9 kg
   Height: 71 Inch
    CVP: 16 (0 - 20)mmHg
   Total In:
                                                                  2,093 mL
                                                                  1,731 mL
   PO:
   TF:
                                                                    473 mL
   IVF:
                                                                  1,440 mL
                                                                  1,701 mL
   Blood products:
   Total out:
                                                                  2,429 mL
                                                                  1,897 mL
   Urine:
                                                                    495 mL
                                                                     85 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -336 mL
                                                                   -166 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 473 (336 - 998) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.40/41/139/23/0
   Ve: 7.3 L/min
   PaO2 / FiO2: 463
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   251 K/uL
   6.9 g/dL
   167 mg/dL
   1.9 mg/dL
   23 mEq/L
   4.5 mEq/L
   51 mg/dL
   107 mEq/L
   142 mEq/L
   21.5 %
   12.8 K/uL
        [image002.jpg]
                             [**2110-6-22**]  03:51 AM
                             [**2110-6-22**]  04:12 AM
                             [**2110-6-23**]  03:15 AM
                             [**2110-6-23**]  02:49 PM
                             [**2110-6-24**]  03:45 AM
                             [**2110-6-24**]  05:46 PM
                             [**2110-6-24**]  11:38 PM
                             [**2110-6-24**]  11:57 PM
                             [**2110-6-25**]  05:47 AM
                             [**2110-6-25**]  06:03 AM
   WBC
   13.6
   15.6
   12.8
   12.8
   Hct
   21.7
   22.8
   22.9
   21.5
   Plt
   186
   225
   228
   251
   Cr
   1.0
   2.0
   2.6
   2.2
   1.9
   TCO2
   28
   28
   26
   26
   26
   Glucose
   196
   193
   202
   135
   167
   Other labs: PT / PTT / INR:14.1/29.2/1.2, CK / CKMB /
   Troponin-T:26//0.11, ALT / AST:[**7-31**], Alk Phos / T Bili:173/0.5, Amylase
   / Lipase:/136, Differential-Neuts:83.9 %, Lymph:7.6 %, Mono:7.3 %,
   Eos:0.9 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:177 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 CONSTIPATION (OBSTIPATION, FOS)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTHERMIA
 SHOCK, CARDIOGENIC
   85 yo M with h/o CHF (EF 20%), acute on chronic (stage IV) renal
   failure, recent GIB (h/o AVMs), in MICU with shock and respiratory
   failure.
   # Respiratory failure
 intubated, on PS 10/5, with good oxygenation
   and ventilation.
   - approaching dry weight and markedly negative I/O via CVVH.
   - eventual goal to wean vent and extubate, but high chance of failure
   [**1-13**] his cardiac dz, and re-intubation may not be in his best interest
   discussed this with family and they are not comfortable with extubating
   patient at this point
   - will run cvvh even for now, to maintain adequate maps.
   - Plan for Trach/Peg early in the week.  Have spoken with [**Female First Name (un) 3880**] and
   she will consent for procedure.
   # Shock
 likely cardiogenic.  Pt on levophed and CVVH
   - continue to follow pt
s fluid status and CXR.  CXR slightly improved.
   - Use levophed to keep MAP>50 (try to keep around 55)
   # Leukocytosis
   - WBC lower today (at 13.6)
   - pt afebrile but will not be able to mount febrile response on CVVH
   - little evidence to suggest VAP
   - sputum cx
 pseudomonas/yeast; urine cx
 yeast; blood cx
 pending;
   stool cx
 pending
   - will get surveillance cultures today, including blood fungal cx
   - continue meropenem until more culture data is back
   - changed foley and started fluconazole (3 day course) yesterday for
   yeast in urine.  Start date = [**2110-6-19**].
   # Anemia
 hct down to 21.7 today
   - GI tract is likely source of pts Hct drop (along with CKD)
 will
   continue PPI [**Hospital1 **]
   - Will transfuse 1unit pRBC and continue to monitor Hct; with
   transfusion goal of Hct > 21
   # Transudative effusions
 stable
   - Pt is on CVVH to remove fluid
   - Continue to monitor effusions on serial CXR
   # Renal failure
 likely secondary to decreased renal perfusion
   - On CVVH
   # DM2
   - continue with insulin sliding scale and accuchecks
   - blood sugars still high
   - increased Lantus to 25 U daily
   # Altered Mental Status
 difficult to assess [**1-13**] to patient being
   sedated
   # FEN: caution with IVF, replete electrolytes prn, on TF at 35 ml/hr
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2110-6-4**] 08:31 PM
   Dialysis Catheter - [**2110-6-11**] 03:00 PM
   Arterial Line - [**2110-6-12**] 09:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2110-06-26 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2110-6-25**] 08:28 AM
 PICC LINE - START [**2110-6-25**] 10:30 AM
 DIALYSIS CATHETER - STOP [**2110-6-25**] 11:45 AM
 DIALYSIS CATHETER - START [**2110-6-25**] 11:45 AM
 PERCUTANEOUS TRACHEOSTOMY - At [**2110-6-25**] 04:15 PM
 PEG INSERTION - At [**2110-6-25**] 05:30 PM
   s/p trach, peg, tunnelled line, and PIC
   Also got 1 unit of blood
   Allergies:
   Benadryl (Injection) (Diphenhydramine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Meropenem - [**2110-6-24**] 12:00 PM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Vecuronium - [**2110-6-25**] 04:10 PM
   Midazolam (Versed) - [**2110-6-25**] 05:15 PM
   Fentanyl - [**2110-6-25**] 05:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-6-26**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 92 (84 - 97) bpm
   BP: 103/52(68) {86/43(57) - 121/62(80)} mmHg
   RR: 20 (15 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 71.8 kg (admission): 96.9 kg
   Height: 71 Inch
    CVP: 18 (16 - 18)mmHg
   Total In:
                                                                  2,318 mL
                                                                     93 mL
   PO:
   TF:
   IVF:
                                                                  2,288 mL
                                                                     93 mL
   Blood products:
   Total out:
                                                                  2,827 mL
                                                                     80 mL
   Urine:
                                                                    300 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -509 mL
                                                                     13 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 444 (400 - 533) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 51
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 7.9 L/min
   Physical Examination
   GEN: Patient more responsive
   CV: RRR, no m/r/g appreciated
   Resp: w/ trach, on ventilator
   Abd: +bs, soft, NT, ND
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed). Warm extremities
   Skin:  Not assessed
   Neurologic: Responds to: verbal
   Labs / Radiology
   328 K/uL
   7.9 g/dL
   95 mg/dL
   2.4 mg/dL
   23 mEq/L
   4.8 mEq/L
   59 mg/dL
   107 mEq/L
   142 mEq/L
   24.6 %
   13.1 K/uL
        [image002.jpg]
                             [**2110-6-22**]  04:12 AM
                             [**2110-6-23**]  03:15 AM
                             [**2110-6-23**]  02:49 PM
                             [**2110-6-24**]  03:45 AM
                             [**2110-6-24**]  05:46 PM
                             [**2110-6-24**]  11:38 PM
                             [**2110-6-24**]  11:57 PM
                             [**2110-6-25**]  05:47 AM
                             [**2110-6-25**]  06:03 AM
                             [**2110-6-26**]  03:20 AM
   WBC
   15.6
   12.8
   12.8
   13.1
   Hct
   22.8
   22.9
   21.5
   24.6
   Plt
   [**Telephone/Fax (3) 9625**]28
   Cr
   2.0
   2.6
   2.2
   1.9
   2.4
   TCO2
   28
   28
   26
   26
   26
   Glucose
   193
   202
   135
   167
   95
   Other labs: PT / PTT / INR:14.1/29.2/1.2, CK / CKMB /
   Troponin-T:26//0.11, ALT / AST:[**7-31**], Alk Phos / T Bili:173/0.5, Amylase
   / Lipase:/136, Differential-Neuts:83.9 %, Lymph:7.6 %, Mono:7.3 %,
   Eos:0.9 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:177 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:5.0 mg/dL
   Imaging: CXR this am pending
   Microbiology: Blood cultures pending
   Assessment and Plan
 ANEMIA, OTHER
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 CONSTIPATION (OBSTIPATION, FOS)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 SHOCK, CARDIOGENIC
   85 yo M with h/o CHF (EF 20%), acute on chronic (stage IV) renal
   failure, recent GIB (h/o AVMs), in MICU with shock and respiratory
   failure.
   # Respiratory failure
 S/P peg and trach
   - negative I/O via CVVH.
   - will start HD while trying to maintain adequate maps.
   -  After HD, will try trach mask today
   # Shock
 likely cardiogenic.  Seems resolving. Goal MAP > 50
   - Pt off levophed. Will continue midodrine
   # Leukocytosis  and fever
   - CXR not suggestive of VAP. Will resend sputum culture
   - Completed meropenem
   - will monitor results of blood cultures and CXR. Stool culture also
   sent today
   - send for LFTs, amylase, lipase
   # Anemia
 hct down to 21.7 today
   - GI tract is likely source of pts Hct drop (along with CKD)
 will
   continue PPI [**Hospital1 **]
   - pt s/p 1 unit pRBCs. Will monitor
   # Transudative effusions
 stable
   - Pt is on CVVH to remove fluid. Will start HD today
   - Continue to monitor effusions on serial CXR
   # Renal failure
 likely secondary to decreased renal perfusion
   - Renal suggests starting Midodrine 5mg po TID and will transition to
   HD today
   # DM2
   - continue with insulin sliding scale and accuchecks
   # Altered Mental Status
 pt off sedation and mental status improving
   # FEN: caution with IVF, replete electrolytes prn, on TF
   ICU Care
   Nutrition: can start tube feeds through peg this AM
   Glycemic Control:  adequate control on insulin sliding scale
   Lines:
   Arterial Line - [**2110-6-12**] 09:50 PM
   20 Gauge - [**2110-6-25**] 08:15 AM
   PICC Line - [**2110-6-25**] 10:30 AM
   Dialysis Catheter - [**2110-6-25**] 11:45 AM
   Prophylaxis:
   DVT: lovenox stopped w/ recent trach bleed. Will watch for rebleed and
   start when stable
   Stress ulcer: lansoprazole
   VAP:
   Comments: changed foley
   Communication:  Comments: Will call daughter and discuss rehab
   placement
   Code status: Full code
   Disposition: pending off ventilation. Will watch for stable BP off levo
   for 24hrs. Screen for rehab.
   ------ Protected Section ------
   Error made on DVT section. Patient never had trach bleed. Patient not
   on DVT prophylaxis [**1-13**] GI bleed.
   ------ Protected Section Addendum Entered By:[**Name (NI) 9630**] [**Name8 (MD) 9631**], MD
   on:[**2110-6-26**] 14:43 ------

2110-06-27 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2110-6-26**] 02:30 PM
 BLOOD CULTURED - At [**2110-6-26**] 08:30 PM
   sureveillence; obtained from picc line.
   - Tolerated trach mask well yesterday. However was put back on pressure
   support at night.
   - Daughter was called to discuss rehab, but she was unavailable.
   - 5pm Hct stable
   - increased midodrine to 10mg TID
   - Patient responsive to verbal command today. Shook head no when asked
   if he had any pain.
   Allergies:
   Benadryl (Injection) (Diphenhydramine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Meropenem - [**2110-6-24**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-6-27**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 94 (85 - 96) bpm
   BP: 99/43(59) {82/36(51) - 102/50(66)} mmHg
   RR: 22 (18 - 25) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.2 kg (admission): 96.9 kg
   Height: 71 Inch
                  Total In:
                                                                    478 mL
                                                                    175 mL
   PO:
                  TF:
                                                                    207 mL
                                                                    175 mL
   IVF:
                                                                    121 mL
   Blood products:
   Total out:
                                                                  1,225 mL
                                                                     30 mL
   Urine:
                                                                    225 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -747 mL
                                                                    145 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 438 (422 - 450) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 57
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.45/38/146/25/3
   Ve: 9.1 L/min
   PaO2 / FiO2: 487
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic, Trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bilaterally), stable exam
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: edema Absent, Left: edema Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   257 K/uL
   7.6 g/dL
   168 mg/dL
   2.4 mg/dL
   25 mEq/L
   3.9 mEq/L
   49 mg/dL
   105 mEq/L
   143 mEq/L
   23.5 %
   11.5 K/uL
        [image002.jpg]
                             [**2110-6-24**]  05:46 PM
                             [**2110-6-24**]  11:38 PM
                             [**2110-6-24**]  11:57 PM
                             [**2110-6-25**]  05:47 AM
                             [**2110-6-25**]  06:03 AM
                             [**2110-6-26**]  03:20 AM
                             [**2110-6-26**]  03:26 PM
                             [**2110-6-26**]  04:22 PM
                             [**2110-6-27**]  05:25 AM
                             [**2110-6-27**]  05:33 AM
   WBC
   12.8
   13.1
   11.5
   Hct
   21.5
   24.6
   22.9
   23.5
   Plt
   [**Telephone/Fax (3) 9637**]
   Cr
   2.2
   1.9
   2.4
   2.4
   TCO2
   26
   26
   26
   29
   27
   Glucose
   135
   167
   95
   168
   Other labs: PT / PTT / INR:14.1/29.2/1.2, CK / CKMB /
   Troponin-T:26//0.11, ALT / AST:28/52, Alk Phos / T Bili:395/0.7,
   Amylase / Lipase:122/79, Differential-Neuts:83.9 %, Lymph:7.6 %,
   Mono:7.3 %, Eos:0.9 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL,
   LDH:177 IU/L, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Imaging: [**2110-6-26**] CXR final read: no change
   Microbiology: Blood cultures from [**6-21**], [**6-22**], and [**6-26**] show no growth
   to date
   Sputum culture: GRAM NEGATIVE ROD(S).
   Assessment and Plan
 ANEMIA, OTHER
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 CONSTIPATION (OBSTIPATION, FOS)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 SHOCK, CARDIOGENIC
   85 yo M with h/o CHF (EF 20%), acute on chronic (stage IV) renal
   failure, recent GIB (h/o AVMs), in MICU with shock and respiratory
   failure.
    # Respiratory failure
 S/P peg and trach
   - Pt now on HD to remove fluid. Will get HD tomorrow
   - Able to tolerate trach mask well. Continue trach mask with
   intermittent rest with pressure support
   # Shock
 likely cardiogenic.  Seems resolving. Goal MAP > 50
   - Increased midodrine to 10 because MAP low 50s. Will monitor response
   # Leukocytosis  and fever
   - CXR not suggestive of VAP.
   - Completed meropenem
   - will monitor results of blood and sputum cultures.
   - LFTs, amylase, lipase not suggestive of etiology. Elevated levels
   could be [**1-13**] propofol use earlier in hospital course.
   - Urine culture pending
   # Anemia
   - GI tract is likely source of pts Hct drop (along with CKD)
 will
   continue PPI [**Hospital1 **]
   - HCT stable. Will monitor
    # Transudative effusions
 stable
   - Pt is on HD
   - Continue to monitor effusions on serial CXR
   # Renal failure
 likely secondary to decreased renal perfusion
   - on HD. Will get HD tomorrow
   - Will start setting up outpatient HD plans
   # DM2
   - continue with insulin sliding scale and accuchecks
   - Basal insulin held yesterday because just restarting tube feeds.
   - Only got about 10 units Sliding scale and glucose adequately
   controlled.
   - Would continue SSI for now with no long acting insulin
    # Altered Mental Status
 pt off sedation and mental status improving
   # FEN: caution with IVF, replete electrolytes prn, on TF
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2110-6-26**] 03:44 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2110-6-12**] 09:50 PM
 D/C
   PICC Line - [**2110-6-25**] 10:30 AM
   Dialysis Catheter - [**2110-6-25**] 11:45 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Lansoprazole
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: screening for dialysis

2110-06-28 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2110-6-27**] 11:21 AM
 URINE CULTURE - At [**2110-6-27**] 02:31 PM
 STOOL CULTURE - At [**2110-6-27**] 02:31 PM
 BLOOD CULTURED - At [**2110-6-28**] 04:30 AM
   1 set sent of surveillence cxs sent from the picc line.
   [**6-27**]
   -Did well on trache collar yesterday
   -MS is gradually improving
   -Continues to have low grade fever and mild elevation in WBC but no
   clear source
   -guiac negative
   -asked GI about f/u and they stated cannot re-staff until Monday so
   they will see as outpt. if no acute bleed (made aware of downward
   drifting Hct)
   -ordered Hep panels, placed PPD in prep for HD
   -HD tomorrow
   -s/w niece who was concerned with possible d/c tomorrow and it being
   "too soon"
   -started on Cipro for UTI, f/u ctxs
   Allergies:
   Benadryl (Injection) (Diphenhydramine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ciprofloxacin
   Docusate Sodium (Liquid)
   Insulin
   Ipratropium Bromide MDI
   Lansoprazole Oral Disintegrating Tab Midodrine
   Senna
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-6-28**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.8
C (98.2
   HR: 84 (77 - 95) bpm
   BP: 84/47(57) {83/42(51) - 104/56(126)} mmHg
   RR: 19 (18 - 40) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.2 kg (admission): 96.9 kg
   Height: 71 Inch
                  Total In:
                                                                  1,138 mL
                                                                    283 mL
   PO:
                  TF:
                                                                    898 mL
                                                                    283 mL
   IVF:
   Blood products:
   Total out:
                                                                    115 mL
                                                                     40 mL
   Urine:
                                                                    115 mL
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,023 mL
                                                                    243 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   General: trach
d alert but non-verbal
   HEENT: NC/AT, PERRL
   Chest: CTA
   CVS: RRR nl s1/s2
   Abd: soft/NT/ND/NABS
   Ext: trace bilat LE edema, no cyanosis.
   Labs / Radiology
   251 K/uL
   7.4 g/dL
   164 mg/dL
   3.0 mg/dL
   26 mEq/L
   3.7 mEq/L
   62 mg/dL
   105 mEq/L
   143 mEq/L
   23.7 %
   14.4 K/uL
        [image002.jpg]
                             [**2110-6-24**]  11:57 PM
                             [**2110-6-25**]  05:47 AM
                             [**2110-6-25**]  06:03 AM
                             [**2110-6-26**]  03:20 AM
                             [**2110-6-26**]  03:26 PM
                             [**2110-6-26**]  04:22 PM
                             [**2110-6-27**]  05:25 AM
                             [**2110-6-27**]  05:33 AM
                             [**2110-6-27**]  06:19 PM
                             [**2110-6-28**]  04:30 AM
   WBC
   12.8
   13.1
   11.5
   14.4
   Hct
   21.5
   24.6
   22.9
   23.5
   23.6
   23.7
   Plt
   [**Telephone/Fax (3) 9651**]51
   Cr
   1.9
   2.4
   2.4
   3.0
   TCO2
   26
   26
   29
   27
   Glucose
   167
   95
   168
   164
   Other labs: PT / PTT / INR:14.1/29.2/1.2, CK / CKMB /
   Troponin-T:26//0.11, ALT / AST:28/52, Alk Phos / T Bili:395/0.7,
   Amylase / Lipase:122/79, Differential-Neuts:83.9 %, Lymph:7.6 %,
   Mono:7.3 %, Eos:0.9 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL,
   LDH:177 IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 CONSTIPATION (OBSTIPATION, FOS)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 SHOCK, CARDIOGENIC
   85 yo M with h/o CHF (EF 20%), acute on chronic (stage IV) renal
   failure, recent GIB (h/o AVMs), in MICU with shock and respiratory
   failure.
    # Respiratory failure
 S/P peg and trach
   - Pt now on HD to remove fluid. Will get HD today
   - Able to tolerate trach mask well. Continue trach mask with
   intermittent rest with pressure support
   # Shock
 likely cardiogenic.  Improving. Goal MAP > 50
   - Increased midodrine to 10 because MAP low 50s. Will monitor response
   # Leukocytosis  and fever
   - CXR not suggestive of VAP.
   - will monitor results of blood and sputum cultures.
   - LFTs, amylase, lipase not suggestive of etiology. Elevated levels
   could be [**1-13**] propofol use earlier in hospital course.
   - Pt was empirically started on Cipro for UTI (7day course) however all
   samples have been of poor quality because of minimal UOP and time
   needed to collect sufficient sample for analysis.
   - Urine culture pending
   - Consider d/c foley and in/out cath to minimize risk of UTI
   # Anemia
   - GI tract is likely source of pts Hct drop (along with CKD)
 will
   continue PPI [**Hospital1 **]
   - HCT stable. Will monitor
    # Transudative effusions
 stable
   - Pt is on HD
   - Continue to monitor effusions on serial CXR
   # Renal failure
 likely secondary to decreased renal perfusion
   - Now on HD. Will get HD today
   # DM2
   - continue with insulin sliding scale and accuchecks
   - Basal insulin held yesterday because just restarting tube feeds.
   - Only got about 10 units Sliding scale and glucose adequately
   controlled.
   - Would continue SSI for now with no long acting insulin
    # Altered Mental Status
 pt off sedation and mental status improving
   # FEN: caution with IVF, replete electrolytes prn, on TF
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2110-6-27**] 05:22 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2110-6-25**] 10:30 AM
   Dialysis Catheter - [**2110-6-25**] 11:45 AM
   Prophylaxis:
   DVT:  SC Heparin
   Stress ulcer:  PPI
   VAP:  Trach
d, oral care, HOB>30
   Comments:
   Communication: With [**Female First Name (un) 3880**]  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: Possible d/c to LTC facility

2110-06-28 10:03:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85 yo male with CHF from amyloidosis, acute on chronic renal failure
   admitted with carediogenic shock with renal failure/poor renal flow now
   on HD. Has acute respiratory failure from volume overload now trach'd
   and undergoing TC trials.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2110-6-27**] 11:21 AM
 URINE CULTURE - At [**2110-6-27**] 02:31 PM
 STOOL CULTURE - At [**2110-6-27**] 02:31 PM
 BLOOD CULTURED - At [**2110-6-28**] 04:30 AM
   1 set sent of surveillence cxs sent from the picc line.
   Started on cipro for possibility of UTI
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: trach'd
   Allergies:
   Benadryl (Injection) (Diphenhydramine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2110-6-28**] 08:34 AM
   Other medications:
   cipro, mitodrine, lansoprazole, SSI, colace, senna, atrovent,
   albuterol, chlorhexidien
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-6-28**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.4
C (99.4
   HR: 82 (77 - 95) bpm
   BP: 94/50(56) {83/42(51) - 104/56(126)} mmHg
   RR: 19 (18 - 40) insp/min
   SpO2: 100% on 35% TM
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.2 kg (admission): 96.9 kg
   Height: 71 Inch
                  Total In:
                                                                  1,138 mL
                                                                    509 mL
   PO:
                  TF:
                                                                    898 mL
                                                                    389 mL
   IVF:
   Blood products:
   Total out:
                                                                    115 mL
                                                                     55 mL
   Urine:
                                                                    115 mL
                                                                     55 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,023 mL
                                                                    454 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, trach
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, Left SC HD catheter
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   scattered rales
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.4 g/dL
   251 K/uL
   164 mg/dL
   3.0 mg/dL
   26 mEq/L
   3.7 mEq/L
   62 mg/dL
   105 mEq/L
   143 mEq/L
   23.7 %
   14.4 K/uL
        [image002.jpg]
                             [**2110-6-24**]  11:57 PM
                             [**2110-6-25**]  05:47 AM
                             [**2110-6-25**]  06:03 AM
                             [**2110-6-26**]  03:20 AM
                             [**2110-6-26**]  03:26 PM
                             [**2110-6-26**]  04:22 PM
                             [**2110-6-27**]  05:25 AM
                             [**2110-6-27**]  05:33 AM
                             [**2110-6-27**]  06:19 PM
                             [**2110-6-28**]  04:30 AM
   WBC
   12.8
   13.1
   11.5
   14.4
   Hct
   21.5
   24.6
   22.9
   23.5
   23.6
   23.7
   Plt
   [**Telephone/Fax (3) 9651**]51
   Cr
   1.9
   2.4
   2.4
   3.0
   TCO2
   26
   26
   29
   27
   Glucose
   167
   95
   168
   164
   Other labs: PT / PTT / INR:14.1/29.2/1.2, CK / CKMB /
   Troponin-T:26//0.11, ALT / AST:28/52, Alk Phos / T Bili:395/0.7,
   Amylase / Lipase:122/79, Differential-Neuts:83.9 %, Lymph:7.6 %,
   Mono:7.3 %, Eos:0.9 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL,
   LDH:177 IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Fluid analysis / Other labs: Hep serologies pending
   Microbiology: Blood and urine cultures pending
   Assessment and Plan
 ANEMIA, OTHER
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 CONSTIPATION (OBSTIPATION, FOS)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 SHOCK, CARDIOGENIC
   84 yo male admitted with cardiogenic shock with mulitorgan failure from
   volume overload and poor forward flow
   1. Resp failure: currently tolerating TC trials. Receiving HD for fluid
   overload
   2. Cardiogenic shock: on mitodrine with good response
   3. Leukocytosis: Was febrile earlier this week with no + culture
   results; empirically started on ciprofloxacin for concern for UTI with
   his low uop. No fevers over the past 24 hours
   4. Anemia: slow intermittent decreases in Hct, not actively bleeding.
   Have been supporting with transfusions as needed (last several days
   ago). On PPI
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2110-6-27**] 05:22 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2110-6-25**] 10:30 AM
   Dialysis Catheter - [**2110-6-25**] 11:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to rehab / long term care facility
   Total time spent: